2172-06-14 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   vent settings weaned to FiO2 40% and PEEP 5
   -attempted to wean pressors
   -lactate 2.5 consistently although MAP > , ? elevated in setting of
   chronic liver disease
   -Na up to 152, increased free H2O flushes
   -lactulose decreased to 60 q6h as having large BMs
   -1 uPRBC given for hct of 23.1 to increase colloid
   -pressors weaned off
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-13**] 08:16 PM
   Meropenem - [**2172-6-13**] 09:30 PM
   Erythromycin - [**2172-6-14**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-6-13**] 02:00 PM
   Lansoprazole (Prevacid) - [**2172-6-13**] 08:16 PM
   Fentanyl - [**2172-6-14**] 01:59 AM
   Midazolam (Versed) - [**2172-6-14**] 03:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-14**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.1
C (98.7
   HR: 95 (76 - 123) bpm
   BP: 90/46(55) {81/40(53) - 131/67(78)} mmHg
   RR: 24 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
             Total In:
                                                                  6,676 mL
                                                                    701 mL
   PO:
             TF:
   IVF:
                                                                  4,706 mL
                                                                    241 mL
   Blood products:
                                                                    900 mL
   Total out:
                                                                  1,565 mL
                                                                  1,505 mL
   Urine:
                                                                    765 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,111 mL
                                                                   -804 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/43/41/23/2
   Ve: 14 L/min
   PaO2 / FiO2: 103
   Physical Examination
   GEN: intubated and sedated
   HEENT: icteric, L eye dilated and R eye pinpoint but reactive, OP -
   unable to exam, no cervical LAD
   CHEST: bilateral rhonchi throughout anterior lung fields
   CV: tachy, no m/r/g
   ABD: distended, soft, + fluid wave
   EXT: 1+ BLE edema
   NEURO: sedated
   Labs / Radiology
   89 K/uL
   8.4 g/dL
   102 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   22 mg/dL
   117 mEq/L
   150 mEq/L
   26.2 %
   13.3 K/uL
        [image002.jpg]
                             [**2172-6-8**]  07:47 PM
                             [**2172-6-9**]  04:25 AM
                             [**2172-6-9**]  02:54 PM
                             [**2172-6-10**]  04:29 AM
                             [**2172-6-10**]  05:51 PM
                             [**2172-6-13**]  08:15 AM
                             [**2172-6-13**]  09:01 AM
                             [**2172-6-13**]  04:37 PM
                             [**2172-6-13**]  05:36 PM
                             [**2172-6-14**]  03:33 AM
   WBC
   19.4
   19.4
   16.1
   13.8
   13.3
   Hct
   23.8
   23.8
   22.7
   23.6
   23.1
   26.2
   Plt
   176
    176
   159
   125
   89
   Cr
   0.9
   0.9
   1.0
   0.8
   0.9
   0.9
   0.7
   TropT
   0.09
   TCO2
   33
   29
   Glucose
   [**Telephone/Fax (3) 9365**]21
   148
   102
   Other labs: PT / PTT / INR:20.8/46.2/1.9, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:20/35, Alk Phos / T Bili:123/6.5,
   Amylase / Lipase:43/64, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.2 g/dL, LDH:204 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 34 y.o. M with alcoholic cirrhosis s/p esophageal
   banding for variceal bleed, who presented with hepatic encephalopathy
   on [**2172-5-10**], multiple ICU transfers, now transferred intubated to ICU
   s/p respiratory failure, likely secondary to aspiration event.
   # Respiratory Failure: Given acute event, CXR with worsening RML/RLL
   infiltrates, and vomitus suctioned from patient's airway, respiratory
   failure was likely due to an aspiration event.  This occured once
   previously during his hospitalization, where he was also intubated
   after Code Blue was called.
   - treat with meropenem and vancomycin (ESBL enterobacter on sputum from
   this hospitalization)
   - serial ABGs --> will need an a-line
   - trend lactate
   - f/u final CXR
   - send endotracheal culture
   - blood cultures
   - fentanyl/midazolam for sedation
   - daily RSBIs with SBT trials
   # Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade
   II esophageal varices s/p banding on this prolonged hospitalization.
   - increse lactulose 60 ml q2 hours
   - continue rifaximin
   - appreciate hepatology input
   # Hypernatremia: Na 149-150 up from 143 over last 24 hours
   - free water flushes with OG tube
   - 1 L D5W today
   - [**Hospital1 **] lytes
   - urine studies
   # Anemia: baseline 25-27, currently slightly lower than baseline
   - active T&S
   - guiaic all stools
   - continue Vitamin B12
   # Diabetes Mellitus:
   - standing NPH with HISS
   - dextrose prn FS<70
   # Alcohol abuse:
   - folic acid
   - MVI
   FEN: IVFs / replete lytes prn / NPO
   PPX: SQ heparin, bowel regimen prn, PPI
   ACCESS: double lumen PICC (one clotted); will need a-line for frequent
   ABGs and
   CODE STATUS: FULL
   EMERGENCY CONTACT: daughter and partner [**Name (NI) **]
   DISPOSITION: ICU pending resolution of above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   20 Gauge - [**2172-6-13**] 10:17 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-06-14 10:45:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Aspiration pneumonia
   24 Hour Events:
 EKG - At [**2172-6-13**] 08:20 AM
 PAN CULTURE - At [**2172-6-13**] 08:20 AM
   Vent weaned, off pressors. Lactate dropping. Tolerating MAPS 55-60.
   Free water increased, lactulose decreased due to large BMs, got one
   unit blood to keep Hct > 25
   Following commands.
                                      Patient unable to provide history: Sedated
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Erythromycin - [**2172-6-14**] 12:00 AM
   Vancomycin - [**2172-6-14**] 10:18 AM
   Meropenem - [**2172-6-14**] 10:18 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2172-6-14**] 01:59 AM
   Midazolam (Versed) - [**2172-6-14**] 03:44 AM
   Lansoprazole (Prevacid) - [**2172-6-14**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2172-6-14**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-14**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (99
   HR: 88 (76 - 95) bpm
   BP: 94/49(60) {86/40(53) - 131/67(78)} mmHg
   RR: 25 (20 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
             Total In:
                                                                  6,676 mL
                                                                  1,299 mL
   PO:
             TF:
   IVF:
                                                                  4,706 mL
                                                                    579 mL
   Blood products:
                                                                    900 mL
   Total out:
                                                                  1,565 mL
                                                                  1,635 mL
   Urine:
                                                                    765 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,111 mL
                                                                   -336 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/43/41/23/2
   Ve: 13.3 L/min
   PaO2 / FiO2: 103
   Physical Examination
   Eyes / Conjunctiva: L pupil dilated chronically
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: All pulses diminished
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Bowel sounds present, Distended, fluid wave, shifting
   dullness
   Extremities: mild anasarca
   Skin:  Not assessed
   Neurologic: Responds to: touch
   Labs / Radiology
   8.4 g/dL
   89 K/uL
   102 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   22 mg/dL
   117 mEq/L
   150 mEq/L
   26.2 %
   13.3 K/uL
        [image002.jpg]
                             [**2172-6-8**]  07:47 PM
                             [**2172-6-9**]  04:25 AM
                             [**2172-6-9**]  02:54 PM
                             [**2172-6-10**]  04:29 AM
                             [**2172-6-10**]  05:51 PM
                             [**2172-6-13**]  08:15 AM
                             [**2172-6-13**]  09:01 AM
                             [**2172-6-13**]  04:37 PM
                             [**2172-6-13**]  05:36 PM
                             [**2172-6-14**]  03:33 AM
   WBC
   19.4
   19.4
   16.1
   13.8
   13.3
   Hct
   23.8
   23.8
   22.7
   23.6
   23.1
   26.2
   Plt
   176
    176
   159
   125
   89
   Cr
   0.9
   0.9
   1.0
   0.8
   0.9
   0.9
   0.7
   TropT
   0.09
   TCO2
   33
   29
   Glucose
   [**Telephone/Fax (3) 9365**]21
   148
   102
   Other labs: PT / PTT / INR:20.8/46.2/1.9, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:20/35, Alk Phos / T Bili:123/6.5,
   Amylase / Lipase:43/64, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.2 g/dL, LDH:204 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:5.1 mg/dL
   Imaging:  L pleural effusion, retrocardiac opacity, RML/RLL infiltrate
   Microbiology: hx of sputum enterobacter ESBL
   Spu: 1+ GPC in pairs
   CXR: [**Doctor Last Name **] with bilat infiltrates
   Assessment and Plan
 LEUKOCYTOSIS
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ASCITES
 HYPERGLYCEMIA
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Ileus
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CIRRHOSIS OF LIVER, ALCOHOLIC
 HYPOTENSION (NOT SHOCK)
   34 y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], multiple
   ICU transfers, now transferred intubated to ICU s/p respiratory
   failure, likely secondary to aspiration event after pulling out DHT
   # Respiratory Failure: stable at current settings, did not tolerate
   SBT, CXR worse today, leave him alone to recover for now. Follow sputum
   cxs. On meropenem and vancomycin (normal Crl) (ESBL enterobacter on
   sputum from this hospitalization).
   # Hypotension: tolerating MAPs 55-60, replace albumin and blood as
   needed, watch UO. Consider [**Last Name (un) 45**] stim if hypotension recurs.
   # Alcoholic Cirrhosis/varices: lactulose, rifaximin
   # Hypernatremia: Na high, free water increased.
   # Thrombocytopenia: has been there before, follow
   # Rest per housestaff note
   ICU Care
   Nutrition: start feeds
   Glycemic Control: Comments: NPH and HISS
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: needs ICU consent
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Some improvement on vent, off of pressors.
   Exam notable for Tmax: 38.2
C (100.7
F)   Tcurrent: 37.2
C (99
   HR: 88 (76 - 95) bpm   BP: 94/49(60) {86/40(53) - 131/67(78)} mmHg
   RR: 25 (20 - 29) insp/min   SpO2: 97%    Heart rhythm: SR (Sinus
   Rhythm)
   Balance:    5,111 mL
   CMV  16/500/5/.4           Plateau: 22 cmH2O   SpO2: 97%   VBG:
   7.42/43  Ve: 13.3 L/min   PaO2 / FiO2: 103
   Intubated, sedated
   Congested BS
   RRR
   Abd benign
   Extrem 1+ edema
   Labs reviewed and recorded above
   Imaging:   CXR worsening bilateral infiltrates
   Problems: respiratory failure, multifocal pna, cirrhosis, GI bleed,
   hypotension, hypernatremia
   Agree with plan to wean vent, cont abx, increase H2O, follow BP
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 37 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2172-6-14**] 14:02 ------

2172-06-15 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -CXR worse/concerning for [**Doctor Last Name **], did not extubate
   -Thick secretions, sputum sample pending
   -No diuresis
   -Na: 154, wrote for D5W X 2 L, am Na 152
   -High residuals/bilious output, started reglan 10 mg IV bid. Could not
   increase/give free water flushes. Will need to use D5W.
   -Reported abdominal pain: ordered LFTs/lipase, AXR and abd ultrasound
   for am.
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-14**] 08:55 PM
   Meropenem - [**2172-6-15**] 03:00 AM
   Erythromycin - [**2172-6-15**] 06:08 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2172-6-14**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2172-6-14**] 08:55 PM
   Fentanyl - [**2172-6-15**] 03:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-15**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.6
   HR: 90 (76 - 100) bpm
   BP: 85/42(52) {84/33(52) - 110/72(77)} mmHg
   RR: 24 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
           Total In:
                                                                  2,991 mL
                                                                  1,305 mL
   PO:
           TF:
   IVF:
                                                                  1,851 mL
                                                                  1,205 mL
   Blood products:
                                                                    100 mL
                                                                    100 mL
   Total out:
                                                                  3,565 mL
                                                                    635 mL
   Urine:
                                                                    965 mL
                                                                    285 mL
   NG:
                                                                    800 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                   -574 mL
                                                                    670 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: ///24/
   Ve: 13.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: anisocoria
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   bilateral)
   Abdominal: Soft, Bowel sounds present, Distended, diffusely ttp
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   70 K/uL
   8.4 g/dL
   131 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.4 mEq/L
   22 mg/dL
   117 mEq/L
   152 mEq/L
   25.5 %
   11.6 K/uL
        [image002.jpg]
                             [**2172-6-9**]  04:25 AM
                             [**2172-6-9**]  02:54 PM
                             [**2172-6-10**]  04:29 AM
                             [**2172-6-10**]  05:51 PM
                             [**2172-6-13**]  08:15 AM
                             [**2172-6-13**]  09:01 AM
                             [**2172-6-13**]  04:37 PM
                             [**2172-6-13**]  05:36 PM
                             [**2172-6-14**]  03:33 AM
                             [**2172-6-15**]  02:30 AM
   WBC
   19.4
   19.4
   16.1
   13.8
   13.3
   11.6
   Hct
   23.8
   23.8
   22.7
   23.6
   23.1
   26.2
   25.5
   Plt
   176
    176
   159
   125
   89
   70
   Cr
   0.9
   1.0
   0.8
   0.9
   0.9
   0.7
   1.0
   TropT
   0.09
   TCO2
   33
   29
   Glucose
   [**Telephone/Fax (3) 9378**]48
   102
   131
   Other labs: PT / PTT / INR:20.7/58.4/1.9, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:13/28, Alk Phos / T Bili:114/4.5,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.3 g/dL, LDH:137 IU/L, Ca++:9.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], multiple
   ICU transfers, now transferred intubated to ICU s/p respiratory
   failure, likely secondary to aspiration event.
   # Respiratory Failure: aspiration with [**Doctor Last Name **].  Will maintain intubation
   today.  Has thick sputum, moderate amount, bilious.
   -Sputum culture
pending, no organisms on Sputum
   -Meropenem/Vanc and hold vanc d/t level
8 day course
   -Fent/versed for sedation
bolus only, no infusion
   -follow am CXR/SBT/RSBI
   #Hypotension:  can tolerate MAP of 55 as chronic liver disease.  Am
   cortisol 6.5. Had previously received steroids
   -[**Month (only) 60**] require stress dose steroids, continue to consider [**Last Name (un) 45**] stim
   -Off pressors, but required fluid bolus this morning
   # Abdominal pain: lipase, LFTs unremarkable. Pt indicates pain is from
   distention. Ultrasound being done this morning
   -therapeutic/diagnostic paracentesis today
   -bladder pressure
   # Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade
   II esophageal varices s/p banding on this prolonged hospitalization.
   - increse lactulose 60 ml q6 hours with robust stool output
   - continue rifaximin
   - appreciate hepatology input
   # Hypernatremia: Na remains high as not getting free water through tube
   -2 L D5W today
   - [**Hospital1 **] lytes
5 pm
   # Anemia: baseline 25-27, currently slightly lower than baseline. Now
   s/p 1 u prbc, goal HCT 25
   - continue Vitamin B12
   # Diabetes Mellitus:
   - standing NPH with HISS
   - dextrose prn FS<70
   # Alcohol abuse:
   - folic acid
   - MVI
   FEN: IVFs / replete lytes prn / NPO
holding TF due to high residuals
   PPX: SQ heparin, bowel regimen prn, PPI
   ACCESS: double lumen PICC (one clotted); 1 PIV
   CODE STATUS: FULL
   EMERGENCY CONTACT: daughter and partner [**Name (NI) **]
   DISPOSITION: ICU pending resolution of above
   ICU Care
   Nutrition: Holding TF due to high residuals
   Glycemic Control:  SSI
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   20 Gauge - [**2172-6-13**] 10:17 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2172-06-15 09:28:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with cirrhosis and hepatic encephalopathy.  Three ICU
   admissions during this hospital stay for variceal bleed, then
   aspiration and encephalopathy, and again on [**6-13**] for aspiration event
   and respiratoyr arrest.  CXR yesterday with increased infiltrates and
   increased secretions.  Having ++residuals and hypernatremia also.
   Reglan started.
   24 Hour Events:
   c/o abdominal pain yesterday, workup underway
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-14**] 08:55 PM
   Meropenem - [**2172-6-15**] 03:00 AM
   Erythromycin - [**2172-6-15**] 06:08 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2172-6-15**] 03:08 AM
   Heparin Sodium (Prophylaxis) - [**2172-6-15**] 08:00 AM
   Other medications:
   chlorhex
   insulin SS
   nystatin oral
   albumin [**Hospital1 **]
   MVI
   prevacid
   heparin
   vit B12
   folate
   rifaxamin
   colace
   lactulose
   albuterol
   atrovent
   reglan 10 q12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2172-6-15**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 86 (76 - 100) bpm
   BP: 86/42(53) {81/33(52) - 110/72(77)} mmHg
   RR: 26 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
           Total In:
                                                                  2,991 mL
                                                                  2,091 mL
   PO:
           TF:
   IVF:
                                                                  1,851 mL
                                                                  1,991 mL
   Blood products:
                                                                    100 mL
                                                                    100 mL
   Total out:
                                                                  3,565 mL
                                                                    651 mL
   Urine:
                                                                    965 mL
                                                                    301 mL
   NG:
                                                                    800 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                   -574 mL
                                                                  1,440 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 493 (493 - 493) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: ///24/
   Ve: 14.5 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: left pupil much larger than right
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   70 K/uL
   131 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.4 mEq/L
   22 mg/dL
   117 mEq/L
   152 mEq/L
   25.5 %
   11.6 K/uL
        [image002.jpg]
                             [**2172-6-9**]  04:25 AM
                             [**2172-6-9**]  02:54 PM
                             [**2172-6-10**]  04:29 AM
                             [**2172-6-10**]  05:51 PM
                             [**2172-6-13**]  08:15 AM
                             [**2172-6-13**]  09:01 AM
                             [**2172-6-13**]  04:37 PM
                             [**2172-6-13**]  05:36 PM
                             [**2172-6-14**]  03:33 AM
                             [**2172-6-15**]  02:30 AM
   WBC
   19.4
   19.4
   16.1
   13.8
   13.3
   11.6
   Hct
   23.8
   23.8
   22.7
   23.6
   23.1
   26.2
   25.5
   Plt
   176
    176
   159
   125
   89
   70
   Cr
   0.9
   1.0
   0.8
   0.9
   0.9
   0.7
   1.0
   TropT
   0.09
   TCO2
   33
   29
   Glucose
   [**Telephone/Fax (3) 9378**]48
   102
   131
   Other labs: PT / PTT / INR:20.7/58.4/1.9, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:13/28, Alk Phos / T Bili:114/4.5,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.3 g/dL, LDH:137 IU/L, Ca++:9.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR
   Assessment and Plan
   Aspiration PNA:  on vanco/[**Last Name (un) 430**].  Increased secretions today.  Sputum
   pending.
   Respiratory failure:  RSBI in 60s today.  But MS is still marginal and
   with lots of secretions, will hold off on tryiing to extubate.
   hypernatremia:  continue free water with D5W.  Unable to get oral free
   water due to ileus
   cirrhosis:  due to ETOH.   [**Month (only) 60**] paracentesis today as is quite distended
   and may help respirations.  Check bladder pressure
   ileus:  due to narcotics and chronic illness,  try again to feed today
   thrombocytopenia:  stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2172-06-16 05:30:00 Physician Resident Progress Note
24 Hour Events:
 ULTRASOUND - At [**2172-6-15**] 08:08 AM
   eval for cholecystitis, ascites and marked for paracentesis.
 PARACENTESIS - At [**2172-6-15**] 01:15 PM
 MULTI LUMEN - START [**2172-6-15**] 08:41 PM
 MULTI LUMEN - STOP [**2172-6-15**] 08:47 PM
 BLOOD CULTURED - At [**2172-6-16**] 12:26 AM
   - 4 L paracentesis with albumin, no SBP
   - abd U/S prelim with lg ascites, AXR no obstruction
   - given 2 L D5w for hyperNa --> Na 146
   - bladder pressure 8
   - liver: EGD on Tues, continue rifaximin/lactulose, perform
   paracentesis
   - bolused 1 L LR x 2 for SBP 80s ---> had to start levophed --> still
   with intermmitent low SBPs
   - RIJ placed for access
   - cultured for 100.5 overnight
   - increased PEEP to 10 overnight but now back to PEEP 5 with plans to
   switch to PS today
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-14**] 08:55 PM
   Erythromycin - [**2172-6-16**] 12:00 AM
   Meropenem - [**2172-6-16**] 04:10 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2172-6-15**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2172-6-15**] 08:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-16**] 05:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 73 (73 - 94) bpm
   BP: 89/46(51) {73/35(45) - 108/69(76)} mmHg
   RR: 25 (20 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
    Bladder pressure: 8 (8 - 8) mmHg
   Total In:
                                                                  5,457 mL
                                                                    433 mL
   PO:
   TF:
   IVF:
                                                                  4,357 mL
                                                                    433 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  6,126 mL
                                                                    157 mL
   Urine:
                                                                    951 mL
                                                                    157 mL
   NG:
                                                                    475 mL
   Stool:
   Drains:
                                                                  4,000 mL
   Balance:
                                                                   -669 mL
                                                                    276 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 361 (361 - 493) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: ///22/
   Ve: 12.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: anisocoria
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   bilateral)
   Abdominal: Soft, Bowel sounds present, Distended-though improved post
   paracentesis, diffusely ttp
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   55 K/uL
   7.6 g/dL
   126 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.8 mEq/L
   17 mg/dL
   114 mEq/L
   145 mEq/L
   23.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2172-6-10**]  04:29 AM
                             [**2172-6-10**]  05:51 PM
                             [**2172-6-13**]  08:15 AM
                             [**2172-6-13**]  09:01 AM
                             [**2172-6-13**]  04:37 PM
                             [**2172-6-13**]  05:36 PM
                             [**2172-6-14**]  03:33 AM
                             [**2172-6-15**]  02:30 AM
                             [**2172-6-15**]  04:54 PM
                             [**2172-6-16**]  03:18 AM
   WBC
   16.1
   13.8
   13.3
   11.6
   10.2
   Hct
   22.7
   23.6
   23.1
   26.2
   25.5
   23.8
   Plt
   159
   125
   89
   70
   55
   Cr
   1.0
   0.8
   0.9
   0.9
   0.7
   1.0
   0.8
   0.9
   TropT
   0.09
   TCO2
   33
   29
   Glucose
   [**Telephone/Fax (3) 9389**]02
   131
   147
   126
   Other labs: PT / PTT / INR:21.0/97.5/2.0, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:15/27, Alk Phos / T Bili:98/4.7,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.3 g/dL, LDH:144 IU/L, Ca++:9.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], multiple
   ICU transfers, now transferred intubated to ICU s/p respiratory
   failure, likely secondary to aspiration event.
   # Respiratory Failure: aspiration with [**Doctor Last Name **] and most recent CXR with
   worsening bilateral infiltrates.  Remain intubated.  Continues to have
   thick sputum, moderate amount, bilious.  Resp status most likely
   reflective of fluid/albumin at this time.
   -Sputum culture
pending, no organisms on Sputum and no growth to date
   -Completed 5 additional days of antibiotics after 16 day course last
   ICU stay
stop antibiotics
   -Fent/versed for sedation
bolus only, no infusion
   -follow am CXR/SBT/RSBI
   -Goal I/O even to negative, check CVP and central venous sat
   -Change to PSV 15/8
   #Hypotension:  can tolerate MAP of 55 as chronic liver disease.  Am
   cortisol 6.5. Had previously received steroids
   -restarted pressors overnight for persistent hypotension, on low dose
   norepi
   -once off pressors, will diurese
   # Abdominal pain: improved post paracentesis
likely related to
   distention
   # Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade
   II esophageal varices s/p banding on this prolonged hospitalization.
   - increse lactulose 60 ml q6 hours with robust stool output
   - continue rifaximin
   - plan for EGD today with hepatology for interval variceal
   evaluation
ask to hold off until pressures better
   # Hypernatremia:  completed 2 L of D5W yesterday and now tolerating his
   free water flushes as residuals much improved.
   - [**Hospital1 **] lytes
5 pm
   # Anemia: baseline 25-27, currently slightly lower than baseline. HCT
   likely related to fluid +/- vancomycin.  Stopping antibiotics, trend
   HCT for now. No e/o bleeding.
   # Diabetes Mellitus: standing NPH with HISS,  dextrose prn FS<70
   # Alcohol abuse:  folate/MVI
   ICU Care
   Nutrition:  TF, free water flush
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2172-06-16 09:10:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with ETOH cirrhosis, esophageal banding for variceal bleed,
   and respiratory failure due to aspiration encephalopathy.  Overnight
   got hypotensive required central line placement and levophed started.
   24 Hour Events:
 ULTRASOUND - At [**2172-6-15**] 08:08 AM
   eval for cholecystitis, ascites and marked for paracentesis.
 PARACENTESIS - At [**2172-6-15**] 01:15 PM
 MULTI LUMEN - START [**2172-6-15**] 08:41 PM
 MULTI LUMEN - STOP [**2172-6-15**] 08:47 PM
 BLOOD CULTURED - At [**2172-6-16**] 12:26 AM
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-14**] 08:55 PM
   Meropenem - [**2172-6-16**] 04:10 AM
   Erythromycin - [**2172-6-16**] 06:26 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2172-6-15**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2172-6-16**] 08:00 AM
   Lansoprazole (Prevacid) - [**2172-6-16**] 08:00 AM
   Other medications:
   chlorhexidine
   SSI and NPH
   nystatin oral
   albumin [**Hospital1 **]
   MVI
   B12
   folate
   rifaxamin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-16**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.9
C (100.2
   HR: 85 (73 - 95) bpm
   BP: 88/46(55) {73/35(45) - 108/69(76)} mmHg
   RR: 26 (20 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
             Total In:
                                                                  5,457 mL
                                                                  1,356 mL
   PO:
             TF:
   IVF:
                                                                  4,357 mL
                                                                  1,036 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  6,126 mL
                                                                  1,052 mL
   Urine:
                                                                    951 mL
                                                                    252 mL
   NG:
                                                                    475 mL
   Stool:
   800 mL
   Drains:
                                                                  4,000 mL
   Balance:
                                                                   -669 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 361 (361 - 361) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 99%
   ABG: ///22/
   Ve: 13.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   55 K/uL
   126 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.8 mEq/L
   17 mg/dL
   114 mEq/L
   145 mEq/L
   23.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2172-6-10**]  04:29 AM
                             [**2172-6-10**]  05:51 PM
                             [**2172-6-13**]  08:15 AM
                             [**2172-6-13**]  09:01 AM
                             [**2172-6-13**]  04:37 PM
                             [**2172-6-13**]  05:36 PM
                             [**2172-6-14**]  03:33 AM
                             [**2172-6-15**]  02:30 AM
                             [**2172-6-15**]  04:54 PM
                             [**2172-6-16**]  03:18 AM
   WBC
   16.1
   13.8
   13.3
   11.6
   10.2
   Hct
   22.7
   23.6
   23.1
   26.2
   25.5
   23.8
   Plt
   159
   125
   89
   70
   55
   Cr
   1.0
   0.8
   0.9
   0.9
   0.7
   1.0
   0.8
   0.9
   TropT
   0.09
   TCO2
   33
   29
   Glucose
   [**Telephone/Fax (3) 9389**]02
   131
   147
   126
   Other labs: PT / PTT / INR:21.0/97.5/2.0, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:15/27, Alk Phos / T Bili:98/4.7,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:3.3 g/dL, LDH:144 IU/L, Ca++:9.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Fluid analysis / Other labs: vanco 20.6
   Assessment and Plan
   Respiratory failure:  CXR worse this morning, but got IVF yesterday.
   Likely CXR worsening and HOTN is due to fluid shifts and hemodynamic
   problems associated with removal of ascitic fluid coupled with
   repletion of saline for HOTN which likely accumulated in the lungs.
   Will try duresis today.
   HOTN:  most likely due to fluid shifts.  Will check CVL saturation.
   Also check CVP
   Aspiration PNA:  all cultures negative, more likely a pneumonitis.  WBC
   coming down.  Will stop vanco and meropenem
   Anemia:  Hct stable
   DM:  on SSI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2172-06-17 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2172-6-16**] 11:00 AM
 PAN CULTURE - At [**2172-6-16**] 05:00 PM
 FEVER - 101.2
F - [**2172-6-16**] 04:00 PM
   - given 25mg IV hydrocort for hypotension, started Q 6hrs and attempted
   to wean pressors
   - PEEP decreased from 8 to 5
   - switched to pressure support 15/5, FiO2 40%- at 1 a.m.- lasted 3 or 4
   hours but then became tachypneic to 40 and switched back to AC
   vetilation
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-14**] 08:55 PM
   Meropenem - [**2172-6-16**] 04:10 AM
   Erythromycin - [**2172-6-17**] 12:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2172-6-16**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2172-6-16**] 09:00 PM
   Fentanyl - [**2172-6-17**] 02:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-17**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.3
   HR: 76 (76 - 101) bpm
   BP: 99/59(68) {69/38(43) - 137/73(83)} mmHg
   RR: 19 (18 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
    CVP: 20 (12 - 23)mmHg
   Bladder pressure: 7 (7 - 7) mmHg
   Total In:
                                                                  3,096 mL
                                                                    880 mL
   PO:
   TF:
                                                                    340 mL
                                                                    323 mL
   IVF:
                                                                  1,616 mL
                                                                    217 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  2,592 mL
                                                                    910 mL
   Urine:
                                                                    992 mL
                                                                    210 mL
   NG:
   Stool:
                                                                  1,600 mL
                                                                    700 mL
   Drains:
   Balance:
                                                                    504 mL
                                                                    -30 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 503 (503 - 503) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 11.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: anisocoria
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   bilateral)
   Abdominal: Soft, Bowel sounds present, Distended-though improved post
   paracentesis, diffusely ttp
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   46 K/uL
   7.9 g/dL
   126 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.8 mEq/L
   17 mg/dL
   114 mEq/L
   145 mEq/L
   25.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2172-6-10**]  05:51 PM
                             [**2172-6-13**]  08:15 AM
                             [**2172-6-13**]  09:01 AM
                             [**2172-6-13**]  04:37 PM
                             [**2172-6-13**]  05:36 PM
                             [**2172-6-14**]  03:33 AM
                             [**2172-6-15**]  02:30 AM
                             [**2172-6-15**]  04:54 PM
                             [**2172-6-16**]  03:18 AM
                             [**2172-6-17**]  05:42 AM
   WBC
   13.8
   13.3
   11.6
   10.2
   7.2
   Hct
   23.6
   23.1
   26.2
   25.5
   23.8
   25.0
   Plt
   125
   89
   70
   55
   46
   Cr
   0.8
   0.9
   0.9
   0.7
   1.0
   0.8
   0.9
   TropT
   0.09
   TCO2
   33
   29
   Glucose
   121
   148
   102
   131
   147
   126
   Other labs: PT / PTT / INR:21.0/97.5/2.0, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:15/27, Alk Phos / T Bili:98/4.7,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.3 g/dL, LDH:144 IU/L, Ca++:9.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], multiple
   ICU transfers, now transferred intubated to ICU s/p respiratory
   failure, likely secondary to aspiration event.
   # Respiratory Failure: aspiration with [**Doctor Last Name **] and most recent CXR with
   worsening bilateral infiltrates.  Remain intubated.  Continues to have
   thick sputum, moderate amount, bilious.  Resp status most likely
   reflective of fluid/albumin at this time.
   -Sputum culture
pending, no organisms on Sputum and no growth to date
   -Completed 5 additional days of antibiotics after 16 day course last
   ICU stay
stop antibiotics
   -Fent/versed for sedation
bolus only, no infusion
   -follow am CXR/SBT/RSBI
   -Goal I/O even to negative, check CVP and central venous sat
   -Change to PSV 15/8
   #Hypotension:  can tolerate MAP of 55 as chronic liver disease.  Am
   cortisol 6.5. Had previously received steroids
   -restarted pressors overnight for persistent hypotension, on low dose
   norepi
   -once off pressors, will diurese
    # Abdominal pain: improved post paracentesis
likely related to
   distention
    # Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade
   II esophageal varices s/p banding on this prolonged hospitalization.
   - increse lactulose 60 ml q6 hours with robust stool output
   - continue rifaximin
   - plan for EGD today with hepatology for interval variceal
   evaluation
ask to hold off until pressures better
    # Hypernatremia:  completed 2 L of D5W yesterday and now tolerating
   his free water flushes as residuals much improved.
   - [**Hospital1 **] lytes
5 pm
    # Anemia: baseline 25-27, currently slightly lower than baseline. HCT
   likely related to fluid +/- vancomycin.  Stopping antibiotics, trend
   HCT for now. No e/o bleeding.
   # Diabetes Mellitus: standing NPH with HISS,  dextrose prn FS<70
   # Alcohol abuse:  folate/MVI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2172-6-17**] 03:05 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-06-17 09:16:00 Physician Attending Progress Note
Chief Complaint: Resp failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Aspiration pneumonia
   24 Hour Events:
 MULTI LUMEN - START [**2172-6-16**] 08:00 AM
 URINE CULTURE - At [**2172-6-16**] 11:00 AM
 PAN CULTURE - At [**2172-6-16**] 05:00 PM
 FEVER - 101.2
F - [**2172-6-16**] 04:00 PM: pancxed
   Responded to stress steroids and weaned off pressors
   PS trial: failed
   Started on lasix drip
   sq heparin d/ced
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-14**] 08:55 PM
   Meropenem - [**2172-6-16**] 04:10 AM
   Erythromycin - [**2172-6-17**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-6-16**] 09:00 PM
   Fentanyl - [**2172-6-17**] 03:00 AM
   Midazolam (Versed) - [**2172-6-17**] 06:20 AM
   Lansoprazole (Prevacid) - [**2172-6-17**] 08:30 AM
   Furosemide (Lasix) - [**2172-6-17**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-17**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.2
C (97.2
   HR: 76 (76 - 101) bpm
   BP: 102/54(64) {69/38(43) - 137/73(83)} mmHg
   RR: 18 (18 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
   CVP: 20 (12 - 23)mmHg
   Bladder pressure: 7 (7 - 7) mmHg
                                Total In:
                                                                  3,096 mL
                                                                  1,194 mL
   PO:
                                TF:
                                                                    340 mL
                                                                    420 mL
   IVF:
                                                                  1,616 mL
                                                                    244 mL
   Blood products:
                                                                    200 mL
                                                                     50 mL
   Total out:
                                                                  2,592 mL
                                                                  1,030 mL
   Urine:
                                                                    992 mL
                                                                    330 mL
   NG:
   Stool:
                                                                  1,600 mL
                                                                    700 mL
   Drains:
   Balance:
                                                                    504 mL
                                                                    164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 503 (503 - 503) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///21/
   Ve: 13.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: L pupil chronically dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: verbal
   commands
   Labs / Radiology
   7.9 g/dL
   46 K/uL
   214 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.3 mEq/L
   17 mg/dL
   114 mEq/L
   146 mEq/L
   25.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2172-6-10**]  05:51 PM
                             [**2172-6-13**]  08:15 AM
                             [**2172-6-13**]  09:01 AM
                             [**2172-6-13**]  04:37 PM
                             [**2172-6-13**]  05:36 PM
                             [**2172-6-14**]  03:33 AM
                             [**2172-6-15**]  02:30 AM
                             [**2172-6-15**]  04:54 PM
                             [**2172-6-16**]  03:18 AM
                             [**2172-6-17**]  05:42 AM
   WBC
   13.8
   13.3
   11.6
   10.2
   7.2
   Hct
   23.6
   23.1
   26.2
   25.5
   23.8
   25.0
   Plt
   125
   89
   70
   55
   46
   Cr
   0.8
   0.9
   0.9
   0.7
   1.0
   0.8
   0.9
   1.0
   TropT
   0.09
   TCO2
   33
   29
   Glucose
   121
   148
   102
   131
   147
   126
   214
   Other labs: PT / PTT / INR:21.2/66.7/2.0, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/28, Alk Phos / T Bili:99/4.9,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.5 g/dL, LDH:136 IU/L, Ca++:10.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:5.1 mg/dL
   Fluid analysis / Other labs: Vanc: 10
   Microbiology: pend: blood, urine, peritoneal: ngtd
   CXR: worsenined [**Doctor Last Name **]/pulm edema
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 LEUKOCYTOSIS
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ASCITES
 HYPERGLYCEMIA
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Ileus
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CIRRHOSIS OF LIVER, ALCOHOLIC
 HYPOTENSION (NOT SHOCK)
   Respiratory failure:  CXR worse this morning, secretions stable, WBC
   low, fever + off antibiotics. Cultures pending. Started diuresis.
   Patient agreeable to trach.
   HOTN:  resolved with supplemental steroids, start weaning. Off
   pressors. Tanked up with high CVP. Tolerating lasix drip.
   Anemia:  Hct stable, possible EGD for varices today
   DM:  on SSI, tighten today with steroids
   Cirrhosis, ascitis: neg for SBP, watch in the setting of fever
   Encephalopathy: resolving on lactulose
   Hypernatremia: resolving with free water, check [**Hospital1 **] lytes
   ICU Care
   Nutrition:
   Glycemic Control:  SSI
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM: ? d/c soon
   Prophylaxis:
   DVT: low plts, high inr, boots only
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, awake
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 2730**] and housestaff MICU team.
   Reviewed above note with which I agree.  Would add/emphasize: 58 yo man
   with ETOH cirrhosis, admitted originally with UGIB, but with recurrent
   aspiration PNA in setting of hepatic encephalopathy.
   O/E  T 101.2
   Lungs: rhoncherous
   CV: reg
   Following simple commands.
   Labs:  WBC 7.2
   A/P
   Respiratory failure:  CXR worse today.  Will try and remove fluid
   through diuresis.  Continue attempts to wean this week.  If unable
   consider tracheostomy next week.
   Fever:  Unclear source, if continues, will consider adding empiric
   therapy for VAP, but follow up cultures for now.
   Hypernatremia:  follow Na as trying to diuresed again.
   CC 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 2513**] [**Name8 (MD) 593**], MD
   on:[**2172-6-17**] 12:05 ------

2172-06-18 05:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -decreased steroids to 25 mg IV every 8 hours
   -lasix gtt started and patient became negative/tolerated well
   -d/c erythromycin
   -Varices banded, OGT removed with plan for ? NG/OG placement
   -GF wants to go forward with trach/peg
   -Potassium repletion
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2172-6-16**] 04:10 AM
   Erythromycin - [**2172-6-17**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2172-6-17**] 08:30 AM
   Furosemide (Lasix) - [**2172-6-17**] 08:30 AM
   Midazolam (Versed) - [**2172-6-18**] 02:30 AM
   Fentanyl - [**2172-6-18**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-18**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96
   HR: 67 (54 - 90) bpm
   BP: 104/47(62) {98/47(62) - 132/100(103)} mmHg
   RR: 17 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
    CVP: 12 (10 - 313)mmHg
   Total In:
                                                                  1,412 mL
                                                                     70 mL
   PO:
   TF:
                                                                    420 mL
   IVF:
                                                                    412 mL
                                                                     70 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,800 mL
                                                                  1,850 mL
   Urine:
                                                                  3,100 mL
                                                                  1,250 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                 -2,388 mL
                                                                 -1,780 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: anisocoria
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   bil)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   44 K/uL
   8.0 g/dL
   189 mg/dL
   0.9 mg/dL
   27 mEq/L
   2.7 mEq/L
   23 mg/dL
   112 mEq/L
   150 mEq/L
   24.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2172-6-13**]  09:01 AM
                             [**2172-6-13**]  04:37 PM
                             [**2172-6-13**]  05:36 PM
                             [**2172-6-14**]  03:33 AM
                             [**2172-6-15**]  02:30 AM
                             [**2172-6-15**]  04:54 PM
                             [**2172-6-16**]  03:18 AM
                             [**2172-6-17**]  05:42 AM
                             [**2172-6-17**]  04:49 PM
                             [**2172-6-18**]  04:16 AM
   WBC
   13.3
   11.6
   10.2
   7.2
   5.2
   Hct
   23.1
   26.2
   25.5
   23.8
   25.0
   24.7
   Plt
   89
   70
   55
   46
   44
   Cr
   0.9
   0.7
   1.0
   0.8
   0.9
   1.0
   0.9
   0.9
   TCO2
   33
   29
   Glucose
   148
   102
   131
   147
   126
   214
   181
   189
   Other labs: PT / PTT / INR:21.2/66.7/2.0, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/28, Alk Phos / T Bili:99/4.9,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.5 g/dL, LDH:136 IU/L, Ca++:10.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:5.1 mg/dL
   MICRO
[**2172-6-16**] 4:47 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2172-6-16**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
   [**6-16**] BCx NGTD
   [**6-16**] Ucx yeast
[**2172-6-15**] 12:46 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PERITONEAL.
      Fluid Culture in Bottles (Preliminary):    NO GROWTH.
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], multiple
   ICU transfers, now transferred intubated to ICU s/p respiratory
   failure, likely secondary to aspiration event.
   # Respiratory Failure: aspiration with [**Doctor Last Name **] and most recent CXR with
   worsening bilateral infiltrates.  Remain intubated.  Continues to have
   thick sputum, moderate amount, bilious.  Resp status most likely
   reflective of fluid/albumin. s/p 16 + 6 days of Abx.
   - f/u sputum cultures
   - lasix gtt for -1.5 to -2 L, possible d/c later this afternoon
   - follow am CXR/SBT/RSBI
   -Lasix gtt after bolus lasix dose with standing albumin with goal neg
   1-2L, may d/c later today
   -talk to family regarding trach peg
   #Hypotension: Resovled. Can tolerate MAP of 55 as chronic liver
   disease.  Am cortisol 6.5. Had previously received steroids
   -reduced steroids to 12.5 mg
   -BP stable, plan for diuresis today.
   -Continue albumin
    # Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade
   II esophageal varices s/p banding on this prolonged hospitalization.
   - lactulose/rifaximin with good stool output
   - pending EGD with hepatology
 consider post pyloric tube placement
    # Hypernatremia:  completed 2 L of D5W yesterday and now tolerating
   his free water flushes as residuals much improved.
   - follow [**Hospital1 **] lytes
   -continue flushes
   - on D5W currently
    # Anemia: currently at baseline, no transfusion
   # Thrombocytopenia: lower platelet count off vancomycin, though may
   continue to have some medication in his system. D/c heparin and use
   pneumoboots
   # Diabetes Mellitus: standing NPH with HISS,  dextrose prn FS<70
   # Alcohol abuse:  folate/MVI
   ICU Care
   Nutrition: TF
   Glycemic Control:  HISS
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: hold HSQ, pneumoboots
   Stress ulcer: PPI (change to IV)
   VAP:  HOB elevation, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2172-06-18 10:48:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with ETOH cirrhosis, recurrently aspiration, associated with
   encephalopathy.
   24 Hour Events:
 ENDOSCOPY - At [**2172-6-17**] 12:00 PM - had varices banded
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2172-6-16**] 04:10 AM
   Erythromycin - [**2172-6-17**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2172-6-18**] 02:30 AM
   Midazolam (Versed) - [**2172-6-18**] 02:30 AM
   Other medications:
   rifaxamin
   folate
   Vitamin B12
   MVI
   albumin
   lactulose
   atrovent
   hydrocort
   reglan
   prevacid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-18**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 78 (54 - 90) bpm
   BP: 91/76(80) {91/47(62) - 132/100(103)} mmHg
   RR: 18 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
   CVP: 12 (10 - 313)mmHg
   Total In:
                                                                  1,412 mL
                                                                    636 mL
   PO:
   TF:
                                                                    420 mL
   IVF:
                                                                    412 mL
                                                                    586 mL
   Blood products:
                                                                    100 mL
                                                                     50 mL
   Total out:
                                                                  3,800 mL
                                                                  2,765 mL
   Urine:
                                                                  3,100 mL
                                                                  2,165 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                 -2,388 mL
                                                                 -2,129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 479 (479 - 479) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 9.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   44 K/uL
   189 mg/dL
   0.9 mg/dL
   27 mEq/L
   2.7 mEq/L
   23 mg/dL
   112 mEq/L
   150 mEq/L
   24.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2172-6-13**]  09:01 AM
                             [**2172-6-13**]  04:37 PM
                             [**2172-6-13**]  05:36 PM
                             [**2172-6-14**]  03:33 AM
                             [**2172-6-15**]  02:30 AM
                             [**2172-6-15**]  04:54 PM
                             [**2172-6-16**]  03:18 AM
                             [**2172-6-17**]  05:42 AM
                             [**2172-6-17**]  04:49 PM
                             [**2172-6-18**]  04:16 AM
   WBC
   13.3
   11.6
   10.2
   7.2
   5.2
   Hct
   23.1
   26.2
   25.5
   23.8
   25.0
   24.7
   Plt
   89
   70
   55
   46
   44
   Cr
   0.9
   0.7
   1.0
   0.8
   0.9
   1.0
   0.9
   0.9
   TCO2
   33
   29
   Glucose
   148
   102
   131
   147
   126
   214
   181
   189
   Other labs: PT / PTT / INR:21.2/66.7/2.0, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/28, Alk Phos / T Bili:99/4.9,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.5 g/dL, LDH:136 IU/L, Ca++:10.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   Respiratory failure:  looks great for extubation.   However given
   mental status and risk of reaspiration, his risk reintubation is very
   high.
   Given this tracheostomy is probably best course for preventing this
   from happening.  CXR improved with diuresis
   Cirrhosis:  not NGT given recent banding, so off lactulose
   hypernatremia:  due to lasix, getting free water
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2172-06-19 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - decreased hydrocortisone 12.5 mg IV q 8 hours
   - HyperNa 150 --> 148, gave 1 L D5W with K repletion
   - stopped lasix gtt around late afternoon for I/O -2 L
   - changed PPI to IV
   - attempted dobhoff but unsuccessful --> hepatology rec trying again on
   Friday, if not placed, IR guided dobhoff (order placed)
   - Hepatology: no new recs other than dobhoff
   - Trach will be planned for Fri, but likely Monday with Thoracics in OR
   (needs INR<1.5, plt>80)
   - repleted lytes aggressively
   - noted to be bradycardic 40-50 while sleeping
   - bolused 500 x 1 for low SBP
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Erythromycin - [**2172-6-17**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-6-18**] 01:30 PM
   Midazolam (Versed) - [**2172-6-18**] 11:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-19**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 51 (51 - 95) bpm
   BP: 87/50(60) {87/37(50) - 131/85(86)} mmHg
   RR: 16 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
    CVP: 13 (5 - 27)mmHg
   Total In:
                                                                  2,521 mL
                                                                  1,462 mL
   PO:
   TF:
   IVF:
                                                                  2,471 mL
                                                                  1,462 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  4,905 mL
                                                                    495 mL
   Urine:
                                                                  4,305 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,384 mL
                                                                    967 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 495 (122 - 530) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: anisocoria
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   bil)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   48 K/uL
   7.6 g/dL
   257 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.3 mEq/L
   22 mg/dL
   108 mEq/L
   145 mEq/L
   23.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2172-6-14**]  03:33 AM
                             [**2172-6-15**]  02:30 AM
                             [**2172-6-15**]  04:54 PM
                             [**2172-6-16**]  03:18 AM
                             [**2172-6-17**]  05:42 AM
                             [**2172-6-17**]  04:49 PM
                             [**2172-6-18**]  04:16 AM
                             [**2172-6-18**]  04:49 PM
                             [**2172-6-18**]  11:46 PM
                             [**2172-6-19**]  03:26 AM
   WBC
   13.3
   11.6
   10.2
   7.2
   5.2
   6.1
   Hct
   26.2
   25.5
   23.8
   25.0
   24.7
   23.9
   Plt
   89
   70
   55
   46
   44
   48
   Cr
   0.7
   1.0
   0.8
   0.9
   1.0
   0.9
   0.9
   1.0
   0.9
   0.9
   Glucose
   102
   131
   147
   126
   [**Telephone/Fax (2) 9418**]86
   208
   257
   Other labs: PT / PTT / INR:19.9/47.8/1.8, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/28, Alk Phos / T Bili:99/4.9,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.5 g/dL, LDH:136 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], multiple
   ICU transfers, now transferred intubated to ICU s/p respiratory
   failure, likely secondary to aspiration event.
   # Respiratory Failure: aspiration with [**Doctor Last Name **] and most recent CXR with
   worsening bilateral infiltrates.  Remain intubated.  Continues to have
   thick sputum, moderate amount, bilious.  Resp status most likely
   reflective of fluid/albumin. s/p 16 + 6 days of Abx.
   - f/u sputum cultures
   - lasix gtt for -1.5 to -2 L, possible d/c later this afternoon
   - follow am CXR/SBT/RSBI
   -Lasix gtt after bolus lasix dose with standing albumin with goal neg
   1-2L, may d/c later today
   -talk to family regarding trach peg
   #Hypotension: Resovled. Can tolerate MAP of 55 as chronic liver
   disease.  Am cortisol 6.5. Had previously received steroids
   -reduced steroids to 12.5 mg
   -BP stable, plan for diuresis today.
   -Continue albumin
    # Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade
   II esophageal varices s/p banding on this prolonged hospitalization.
   - lactulose/rifaximin with good stool output
   - pending EGD with hepatology
 consider post pyloric tube placement
    # Hypernatremia:  completed 2 L of D5W yesterday and now tolerating
   his free water flushes as residuals much improved.
   - follow [**Hospital1 **] lytes
   -continue flushes
   - on D5W currently
    # Anemia: currently at baseline, no transfusion
   # Thrombocytopenia: lower platelet count off vancomycin, though may
   continue to have some medication in his system. D/c heparin and use
   pneumoboots
   # Diabetes Mellitus: standing NPH with HISS,  dextrose prn FS<70
   # Alcohol abuse:  folate/MVI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-06-19 09:49:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with ETOH cirrhosis, GIB, recurrent respiratory failure for
   [** 4624**].  Patient with worsening hypernatremia likely due to
   diuresis.  HOTN likely to to hypovolemia, responded to fluid boluses
   24 Hour Events:
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Erythromycin - [**2172-6-17**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-6-18**] 01:30 PM
   Midazolam (Versed) - [**2172-6-18**] 11:06 PM
   Other medications:
   rifaxamin
   folate
   B12
   MVI
   albumin
   chlorhexidine
   lactulose
   atrovent/albuterol
   insulin SS
   reglan
   protonix
   hydrocortisone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-19**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.8
C (96.4
   HR: 79 (51 - 95) bpm
   BP: 124/57(74) {87/37(50) - 131/85(86)} mmHg
   RR: 23 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
   CVP: 9 (5 - 27)mmHg
   Total In:
                                                                  2,521 mL
                                                                  1,678 mL
   PO:
   TF:
   IVF:
                                                                  2,471 mL
                                                                  1,578 mL
   Blood products:
                                                                     50 mL
                                                                    100 mL
   Total out:
                                                                  4,905 mL
                                                                    725 mL
   Urine:
                                                                  4,305 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,384 mL
                                                                    953 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 344 (122 - 530) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, seems confused
   Labs / Radiology
   7.6 g/dL
   48 K/uL
   228
   0.9 mg/dL
   28 mEq/L
   3.3 mEq/L
   22 mg/dL
   108 mEq/L
   145 mEq/L
   23.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2172-6-15**]  02:30 AM
                             [**2172-6-15**]  04:54 PM
                             [**2172-6-16**]  03:18 AM
                             [**2172-6-17**]  05:42 AM
                             [**2172-6-17**]  04:49 PM
                             [**2172-6-18**]  04:16 AM
                             [**2172-6-18**]  04:49 PM
                             [**2172-6-18**]  11:46 PM
                             [**2172-6-19**]  03:26 AM
                             [**2172-6-19**]  06:00 AM
   WBC
   11.6
   10.2
   7.2
   5.2
   6.1
   Hct
   25.5
   23.8
   25.0
   24.7
   23.9
   Plt
   70
   55
   46
   44
   48
   Cr
   1.0
   0.8
   0.9
   1.0
   0.9
   0.9
   1.0
   0.9
   0.9
   Glucose
   131
   147
   126
   [**Telephone/Fax (3) **]
   186
   208
   257
   228
   Other labs: PT / PTT / INR:19.9/47.8/1.8, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/28, Alk Phos / T Bili:99/4.9,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.5 g/dL, LDH:136 IU/L, Ca++:8.9 mg/dL,
   Mg++:3.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Respiratory failure:  for trach likely on Monday.  Respiratory failure
   largely due to waxing/[**Doctor Last Name 42**] MS [**First Name (Titles) **] [**Last Name (Titles) 4624**]
   volume status:  seems euvolemic, hold further albumna
   cirrhosis:  will get dobhoff hopefully today by IR to get lactulose
   hypernatremia:  improved
   anemia:  stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2172-06-20 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FLUOROSCOPY - At [**2172-6-19**] 11:39 AM
   Doboff placed
   -patient had dobhoff tube placed, unfortunately later last evening he
   pulled dobhoff (hands were tied, he slouched in bed and pulled tube) -
   no aspiration
   -OG tube replaced w/ plan for repeat dobhoff on Monday
   -hyrdocort and albumin discontinued w/ good BPs
   -diuresed to maintain I/O at goal even
   -p.m. K was 2.6, repleted w/ 60meq IV KCl and 40meq PO KCl
   -tube feeds restarted w/ lactulose and free H2O flushes
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-6-19**] 12:12 PM
   Furosemide (Lasix) - [**2172-6-19**] 04:55 PM
   Midazolam (Versed) - [**2172-6-20**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-20**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 110 (68 - 110) bpm
   BP: 124/58(74) {102/47(61) - 154/82(97)} mmHg
   RR: 31 (18 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
    CVP: 15 (8 - 15)mmHg
   Total In:
                                                                  3,635 mL
                                                                  1,065 mL
   PO:
                                                                    240 mL
   TF:
                                                                    378 mL
                                                                    339 mL
   IVF:
                                                                  1,927 mL
                                                                    166 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,090 mL
                                                                    750 mL
   Urine:
                                                                  2,190 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    545 mL
                                                                    315 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 512 (344 - 512) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 14.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: anisocoria
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   bil)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   65 K/uL
   8.3 g/dL
   137 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.6 mEq/L
   20 mg/dL
   114 mEq/L
   152 mEq/L
   26.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2172-6-15**]  04:54 PM
                             [**2172-6-16**]  03:18 AM
                             [**2172-6-17**]  05:42 AM
                             [**2172-6-17**]  04:49 PM
                             [**2172-6-18**]  04:16 AM
                             [**2172-6-18**]  04:49 PM
                             [**2172-6-18**]  11:46 PM
                             [**2172-6-19**]  03:26 AM
                             [**2172-6-19**]  06:00 AM
                             [**2172-6-20**]  03:43 AM
   WBC
   10.2
   7.2
   5.2
   6.1
   11.6
   Hct
   23.8
   25.0
   24.7
   23.9
   26.6
   Plt
   55
   46
   44
   48
   65
   Cr
   0.8
   0.9
   1.0
   0.9
   0.9
   1.0
   0.9
   0.9
   0.9
   Glucose
   147
   126
   214
   181
   189
   186
   [**Telephone/Fax (3) 9427**]
   137
   Other labs: PT / PTT / INR:18.1/42.3/1.6, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/28, Alk Phos / T Bili:99/4.9,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.5 g/dL, LDH:136 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], multiple
   ICU transfers, now transferred intubated to ICU s/p respiratory
   failure, likely secondary to aspiration event.
   # Respiratory Failure: aspiration with [**Doctor Last Name **] and most recent CXR with
   worsening bilateral infiltrates.  Remain intubated.  Continues to have
   thick sputum, moderate amount, bilious.  Resp status most likely
   reflective of fluid/albumin. s/p 16 + 6 days of Abx.
   - f/u sputum cultures
   - hold lasix gtt and I/O goal even to +500, lasix IV prn
   - follow am CXR/SBT/RSBI
   - OR on Monday for trach; will need plt>80 and INR<1.5; Vit K 5 mg po x
   3 days
   - VBG today due to elevated bicarbonate
   # Hypotension: Resolvld. Can tolerate MAP of 55 as chronic liver
   disease.  Am cortisol 6.5. Had previously received steroids. One
   episode of hypotension likely [**1-27**] diuresis
   - d/c steroids
   - d/c albumin
    # Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade
   II esophageal varices s/p banding on this prolonged hospitalization.
   - rifaximin
   - to get lactulose once Dobhoff placed
   - going to IR for Dobhoff placement today
    # Hypernatremia:  improved at 145
   - resume free water flushes once Dobhoff placed
   - trend Na
    # Anemia: currently at baseline, no transfusion
   # Thrombocytopenia: lower platelet count off vancomycin, though may
   continue to have some medication in his system. D/c heparin and use
   pneumoboots.  Trend platelets
   # Diabetes Mellitus: standing NPH with HISS,  dextrose prn FS<70
   # Alcohol abuse:  folate/MVI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2172-6-19**] 10:13 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-06-20 08:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Doboff placed under floro
   - Dopoff pulled out
   - OGT placed and TFs started
   - Transitioned off lasix gtt to IVP
   - Hydrocortisone and albumin discontinued [**1-27**] stable BPs
   - Back on AC overnight
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-6-19**] 12:12 PM
   Furosemide (Lasix) - [**2172-6-19**] 04:55 PM
   Midazolam (Versed) - [**2172-6-20**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-20**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 106 (68 - 110) bpm
   BP: 120/55(69) {102/47(61) - 154/82(97)} mmHg
   RR: 32 (18 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
   CVP: 15 (8 - 15)mmHg
   Total In:
                                                                  3,635 mL
                                                                  1,329 mL
   PO:
                                                                    240 mL
   TF:
                                                                    378 mL
                                                                    472 mL
   IVF:
                                                                  1,927 mL
                                                                    237 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,090 mL
                                                                    830 mL
   Urine:
                                                                  2,190 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    545 mL
                                                                    499 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 512 (467 - 512) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 12 cmH2O
   SpO2: 98%
   ABG: ///30/
   Ve: 15.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   65 K/uL
   137 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.6 mEq/L
   20 mg/dL
   114 mEq/L
   152 mEq/L
   26.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2172-6-15**]  04:54 PM
                             [**2172-6-16**]  03:18 AM
                             [**2172-6-17**]  05:42 AM
                             [**2172-6-17**]  04:49 PM
                             [**2172-6-18**]  04:16 AM
                             [**2172-6-18**]  04:49 PM
                             [**2172-6-18**]  11:46 PM
                             [**2172-6-19**]  03:26 AM
                             [**2172-6-19**]  06:00 AM
                             [**2172-6-20**]  03:43 AM
   WBC
   10.2
   7.2
   5.2
   6.1
   11.6
   Hct
   23.8
   25.0
   24.7
   23.9
   26.6
   Plt
   55
   46
   44
   48
   65
   Cr
   0.8
   0.9
   1.0
   0.9
   0.9
   1.0
   0.9
   0.9
   0.9
   Glucose
   147
   126
   214
   181
   189
   186
   [**Telephone/Fax (3) 9427**]
   137
   Other labs: PT / PTT / INR:18.1/42.3/1.6, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/28, Alk Phos / T Bili:99/4.9,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.5 g/dL, LDH:136 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], multiple
   ICU transfers, now transferred intubated to ICU s/p respiratory
   failure, likely secondary to aspiration event.
   # Respiratory Failure: aspiration with [**Doctor Last Name **] and most recent CXR with
   worsening bilateral infiltrates.  Remain intubated.  Continues to have
   thick sputum, moderate amount, bilious.  Resp status most likely
   reflective of fluid/albumin. s/p 16 + 6 days of Abx.
   - f/u sputum cultures
   - hold lasix gtt and I/O goal even to +500, lasix IV prn
   - follow am CXR/SBT/RSBI
   - OR on Monday for trach; will need plt>80 and INR<1.5; Vit K 5 mg po x
   3 days
   - VBG today due to elevated bicarbonate
   # Hypotension: Resolvld. Can tolerate MAP of 55 as chronic liver
   disease.  Am cortisol 6.5. Had previously received steroids. One
   episode of hypotension likely [**1-27**] diuresis
   - d/c steroids
   - d/c albumin
    # Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade
   II esophageal varices s/p banding on this prolonged hospitalization.
   - rifaximin
   - to get lactulose once Dobhoff placed
   - going to IR for Dobhoff placement today
    # Hypernatremia:  improved at 145
   - resume free water flushes once Dobhoff placed
   - trend Na
    # Anemia: currently at baseline, no transfusion
   # Thrombocytopenia: lower platelet count off vancomycin, though may
   continue to have some medication in his system. D/c heparin and use
   pneumoboots.  Trend platelets
   # Diabetes Mellitus: standing NPH with HISS,  dextrose prn FS<70
   # Alcohol abuse:  folate/MVI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2172-6-19**] 10:13 PM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2172-06-21 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -used OGT
   -High stool output--decreased lactulose dose
   -Gave lasix IV 20 mg X 2 with goal 500-1L neg
   -Consented for trach, getting 3 days of Vitamin K
   -encephalopathic this morning after missing a few doses of lactulose
   but slowly improved
   -BG >200 X 24 hours and needs D5W. Increased NPH to 25 u [**Hospital1 **] and
   tightened sliding scale
   -am Na 155, started D5W
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2172-6-20**] 06:08 PM
   Pantoprazole (Protonix) - [**2172-6-21**] 12:00 AM
   Fentanyl - [**2172-6-21**] 05:45 AM
   Midazolam (Versed) - [**2172-6-21**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-21**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 87 (76 - 110) bpm
   BP: 103/65(76) {97/37(54) - 149/103(108)} mmHg
   RR: 19 (16 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
    CVP: 5 (5 - 5)mmHg
   Total In:
                                                                  4,252 mL
                                                                  1,223 mL
   PO:
   TF:
                                                                  1,572 mL
                                                                    424 mL
   IVF:
                                                                    679 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  4,190 mL
                                                                    620 mL
   Urine:
                                                                  2,990 mL
                                                                    620 mL
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
   Balance:
                                                                     62 mL
                                                                    603 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 432 (432 - 432) mL
   RR (Set): 16
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 11 cmH2O
   Plateau: 7 cmH2O
   Compliance: 200 cmH2O/mL
   SpO2: 98%
   ABG: ///31/
   Ve: 10.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: anisocoria
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   90 K/uL
   8.0 g/dL
   212 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.4 mEq/L
   16 mg/dL
   116 mEq/L
   155 mEq/L
   24.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2172-6-17**]  05:42 AM
                             [**2172-6-17**]  04:49 PM
                             [**2172-6-18**]  04:16 AM
                             [**2172-6-18**]  04:49 PM
                             [**2172-6-18**]  11:46 PM
                             [**2172-6-19**]  03:26 AM
                             [**2172-6-19**]  06:00 AM
                             [**2172-6-20**]  03:43 AM
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
   WBC
   7.2
   5.2
   6.1
   11.6
   12.2
   Hct
   25.0
   24.7
   23.9
   26.6
   24.9
   Plt
   46
   44
   48
   65
   90
   Cr
   1.0
   0.9
   0.9
   1.0
   0.9
   0.9
   0.9
   0.8
   0.9
   Glucose
   [**Telephone/Fax (3) 9418**]86
   [**Telephone/Fax (3) 9434**]
   212
   Other labs: PT / PTT / INR:18.1/42.3/1.6, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/28, Alk Phos / T Bili:99/4.9,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.5 g/dL, LDH:136 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], multiple
   ICU transfers, now transferred intubated to ICU s/p respiratory
   failure, likely secondary to aspiration event.
   # Respiratory Failure:
   -stable, off abx, related to aspiration event and subsequent [**Doctor Last Name **]
vent
   settings mostly dependent on mental status at this time.
   -goal I/O 500 cc negative
has high
 for hyponatremia
lasix gtt
   - OR on Monday for trach; will need plt>80 and INR<1.5; Vit K 5 mg po x
   3 days
thoracics following
   - VBG today
   -PSV during day, can change to AC as necessary
   -sedation as necessary, back on Fentanyl/Versed
   # Hypotension: resolved, off albumin and steroids
   -goal MAP > 55
    # Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade
   II esophageal varices s/p banding on this prolonged hospitalization.
   -rifaximin and lactulose per OG tube
   -plan for repeat dobhoff plcmt on Monday
    # Hypernatremia:  continues to be an active issue, difficult to
   control, requiring IV D5W and frequent water flushes.
   -2 L D5W and increase free water boluses
    # Anemia: currently at baseline, no transfusion
   # Thrombocytopenia: improving off abx and sc heparin
   # Diabetes Mellitus: standing NPH with HISS,  dextrose prn FS<70
   # Alcohol abuse:  folate/MVI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2172-6-21**] 04:49 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2172-06-21 09:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], multiple
   ICU transfers, now transferred intubated to ICU s/p respiratory
   failure, likely secondary to aspiration event.
   24 Hour Events:
   Lasix diuresis attempted yesterday. High blood glucoses yesterday-
   insulin titrated up. Agitated overnight- resumed on fentanyl +
   midazolam.
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-6-21**] 12:00 AM
   Fentanyl - [**2172-6-21**] 05:45 AM
   Midazolam (Versed) - [**2172-6-21**] 06:01 AM
   Furosemide (Lasix) - [**2172-6-21**] 06:30 AM
   Other medications:
   Rifaximin, B12, MVI, Peridex, RISS, Lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-21**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.2
   HR: 88 (76 - 110) bpm
   BP: 127/42(63) {97/37(54) - 149/103(108)} mmHg
   RR: 20 (16 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
   CVP: 5 (5 - 5)mmHg
   Total In:
                                                                  4,252 mL
                                                                  1,835 mL
   PO:
   TF:
                                                                  1,572 mL
                                                                    623 mL
   IVF:
                                                                    679 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  4,190 mL
                                                                  1,520 mL
   Urine:
                                                                  2,990 mL
                                                                  1,020 mL
   NG:
   Stool:
                                                                  1,200 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                     62 mL
                                                                    315 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 443 (432 - 443) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 11 cmH2O
   Plateau: 7 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, anisocoric but PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   90 K/uL
   212 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.4 mEq/L
   16 mg/dL
   116 mEq/L
   155 mEq/L
   24.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2172-6-17**]  05:42 AM
                             [**2172-6-17**]  04:49 PM
                             [**2172-6-18**]  04:16 AM
                             [**2172-6-18**]  04:49 PM
                             [**2172-6-18**]  11:46 PM
                             [**2172-6-19**]  03:26 AM
                             [**2172-6-19**]  06:00 AM
                             [**2172-6-20**]  03:43 AM
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
   WBC
   7.2
   5.2
   6.1
   11.6
   12.2
   Hct
   25.0
   24.7
   23.9
   26.6
   24.9
   Plt
   46
   44
   48
   65
   90
   Cr
   1.0
   0.9
   0.9
   1.0
   0.9
   0.9
   0.9
   0.8
   0.9
   Glucose
   [**Telephone/Fax (3) 9418**]86
   [**Telephone/Fax (3) 9434**]
   212
   Other labs: PT / PTT / INR:18.1/42.3/1.6, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/28, Alk Phos / T Bili:99/4.9,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.5 g/dL, LDH:136 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR ([**6-21**])- increased bilat patchy infiltrates
   Microbiology: All cx neg
   Assessment and Plan
   # Respiratory Failure: aspiration with [**Doctor Last Name **]/pneumonitis.  Intubation x
   3. s/p 16 + 6 days of Abx.  Tolerates daily PS 5/5, but placed on AC
   overnight.
   - I/O goal -500, lasix IV gtt today to accomplish
   - given thick secretions seen by RN and incr WBC ct will re-send sputum
   cx
   - OR on Monday for trach; will replaced Dopoff at that time
   # Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade
   II esophageal varices s/p banding on this prolonged hospitalization.
   -vit K x3d, recheck INR AM for trach
   - rifaximin
   - lactulose
   #Diarrhea:
   - D/C reglan
   - Check for c diff
    # Hypernatremia:
   - increased free water flushes and on D5W
   - trend Na [**Hospital1 **]
    # Anemia: currently at baseline, no transfusion
   # Thrombocytopenia: lower platelet count off vancomycin and heparin.
   Trend platelets
   # Diabetes Mellitus: standing NPH with HISS,  dextrose prn FS<70
   # Alcohol abuse:  folate/MVI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2172-6-21**] 04:49 AM 70 mL/hour
   Comments: at goal; will hold tonight for trach tomorrow
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2172-06-22 05:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TSurg: FFP to OR for INR<1.5, plt>80
   - Liver: consider diag tap for leukocytosis, consider adding
   spironolactone via OG and 1/2 NS
   - Increased NPH to 30 [**Hospital1 **] and tightened SSI
   - holding TF after MN for trach
   - Na 155 --> 149 with 3 L D5W and increased free water flushes
   - lasix gtt started
   - bolused 500 cc x 1 and 250 cc x 1 for SBP 80s, shut off lasix gtt at
   8 PM with I/O +584
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2172-6-21**] 05:45 AM
   Midazolam (Versed) - [**2172-6-21**] 06:01 AM
   Furosemide (Lasix) - [**2172-6-21**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-22**] 05:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 86 (68 - 101) bpm
   BP: 127/48(60) {82/36(49) - 127/85(77)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
             Total In:
                                                                  6,937 mL
                                                                  1,445 mL
   PO:
             TF:
                                                                  1,686 mL
                                                                     56 mL
   IVF:
                                                                  3,180 mL
                                                                    999 mL
   Blood products:
   Total out:
                                                                  5,265 mL
                                                                    440 mL
   Urine:
                                                                  4,065 mL
                                                                    440 mL
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
   Balance:
                                                                  1,672 mL
                                                                  1,005 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 483 (320 - 494) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 13.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: anisocoria
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OGT
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Coarse : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+, warm and well perfused, 1+ edema
   Skin:  Not assessed
   Neurologic: Responds to voice by opening eyes, otherwise does not
   follow commands
   Labs / Radiology
   107 K/uL
   8.0 g/dL
   181 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.9 mEq/L
   15 mg/dL
   108 mEq/L
   146 mEq/L
   25.6 %
   13.9 K/uL
        [image002.jpg]
                             [**2172-6-18**]  04:16 AM
                             [**2172-6-18**]  04:49 PM
                             [**2172-6-18**]  11:46 PM
                             [**2172-6-19**]  03:26 AM
                             [**2172-6-19**]  06:00 AM
                             [**2172-6-20**]  03:43 AM
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
   WBC
   5.2
   6.1
   11.6
   12.2
   13.9
   Hct
   24.7
   23.9
   26.6
   24.9
   25.6
   Plt
   44
   48
   65
   90
   107
   Cr
   0.9
   1.0
   0.9
   0.9
   0.9
   0.8
   0.9
   0.8
   0.8
   Glucose
   189
   186
   208
   257
   [**Telephone/Fax (3) 9441**]
   181
   Other labs: PT / PTT / INR:17.6/43.3/1.6, Ca++:9.2 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   [**6-20**] C. diff neg.
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], multiple
   ICU transfers, now transferred intubated to ICU s/p respiratory
   failure, likely secondary to aspiration event.
   Respiratory Failure: Stable, off antibiotics, related to aspiration
   event and subsequent [**Doctor Last Name **]
vent settings mostly dependent on mental
   status at this time.
   - given hypotensive episodes overnight, holding lasix gtt for now
   - will defer OR today for trach given transient hypotension although
   suspect this was secondary to overly aggressive diuresis.  Will plan
   for OR again tomorrow with plans for plt>80 and INR<1.5; Vit K 5 mg po
   x 3 days
thoracics following
   - PSV during day, can change to AC as necessary
   - will try to transition to bolus sedation today from continuous
   Hypotension: Several episodes of hypotension to 80s overnight, may be
   secondary to overly aggressive diuresis although must keep infection in
   the differential given rising WBC.  BP now stable since discontinuation
   of the lasix gtt.  Will use cautious IV fluid boluses if necessary to
   MAPs < 55.
   - Infectious w/u as below
   - goal MAP > 55
   Leukocytosis: Pt afebrile but with WBC trending up. [**6-20**] C. diff neg.
   All micro neg to date other than yeast in urine and sputum.
   - cont to trend wbc and add diff as above.  Hasn
t received steroids
   since [**6-17**] so unlikely this relates to current leukocytosis.
   - recheck C. diff, BCx, UCx, Sputum Cx
   - consider further infectious w/u with imaging if spikes fever or
   clinically decompensates
   Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade II
   esophageal varices s/p banding on this prolonged hospitalization.
   -rifaximin and lactulose per OG tube
   -IV PPI [**Hospital1 **]
   -plan for repeat dobhoff placement with trach
   Hypernatremia: Continues to be an active issue, difficult to control,
   requiring intermittent IV D5W and frequent water flushes.  Current
   serum sodium is 146.
   - will restart free water via NGT
   - will check PM sodium and consider restarting D5W
    Anemia: Currently at baseline, no transfusion
   Thrombocytopenia: Improving off abx and sc heparin.  Likely
   multifactorial also related to liver disease.
   - will cautiously restart SC heparin
   Diabetes Mellitus: Standing NPH with HISS, dextrose prn FS<70
   - titrate insulin as necessary
   Alcohol abuse:  folate/MVI
   ICU Care
   Nutrition: No tube feeds for now pending trach/dobhoff placement
   Glycemic Control:  NPH/HISS
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: [**Last Name (LF) **], [**First Name3 (LF) 178**] restart heparin SC and monitor platelet count
   Stress ulcer: IV PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2172-06-22 05:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TSurg: FFP to OR for INR<1.5, plt>80
   - Liver: consider diag tap for leukocytosis, consider adding
   spironolactone via OG and 1/2 NS
   - Increased NPH to 30 [**Hospital1 **] and tightened SSI
   - holding TF after MN for trach
   - Na 155 --> 149 with 3 L D5W and increased free water flushes
   - lasix gtt started
   - bolused 500 cc x 1 and 250 cc x 1 for SBP 80s, shut off lasix gtt at
   8 PM and I/O +584
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2172-6-21**] 05:45 AM
   Midazolam (Versed) - [**2172-6-21**] 06:01 AM
   Furosemide (Lasix) - [**2172-6-21**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-22**] 05:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 72 (68 - 101) bpm
   BP: 88/45(55) {82/36(49) - 127/85(77)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
             Total In:
                                                                  6,937 mL
                                                                  1,450 mL
   PO:
             TF:
                                                                  1,686 mL
                                                                     56 mL
   IVF:
                                                                  3,180 mL
                                                                  1,004 mL
   Blood products:
   Total out:
                                                                  5,265 mL
                                                                    500 mL
   Urine:
                                                                  4,065 mL
                                                                    500 mL
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
   Balance:
                                                                  1,672 mL
                                                                    950 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 483 (320 - 494) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 13.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   107 K/uL
   8.0 g/dL
   181 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.9 mEq/L
   15 mg/dL
   108 mEq/L
   146 mEq/L
   25.6 %
   13.9 K/uL
        [image002.jpg]
                             [**2172-6-18**]  04:16 AM
                             [**2172-6-18**]  04:49 PM
                             [**2172-6-18**]  11:46 PM
                             [**2172-6-19**]  03:26 AM
                             [**2172-6-19**]  06:00 AM
                             [**2172-6-20**]  03:43 AM
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
   WBC
   5.2
   6.1
   11.6
   12.2
   13.9
   Hct
   24.7
   23.9
   26.6
   24.9
   25.6
   Plt
   44
   48
   65
   90
   107
   Cr
   0.9
   1.0
   0.9
   0.9
   0.9
   0.8
   0.9
   0.8
   0.8
   Glucose
   189
   186
   208
   257
   [**Telephone/Fax (3) 9441**]
   181
   Other labs: PT / PTT / INR:17.6/43.3/1.6, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/28, Alk Phos / T Bili:99/4.9,
   Amylase / Lipase:43/33, Differential-Neuts:75.1 %, Band:4.0 %,
   Lymph:16.7 %, Mono:5.3 %, Eos:2.5 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.5 g/dL, LDH:136 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ASCITES
 HYPERGLYCEMIA
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Ileus
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CIRRHOSIS OF LIVER, ALCOHOLIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-06-22 10:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with ETOH cirrhosis, respiratroy failure, from recurrent
   aspiration.  Overnight started on a lasix drip and became hypotensive
   24 Hour Events:
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   rifaxamin
   folate
   B12
   chlorhexidine
   protonix
   lactulose
   fentayl
   versed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-22**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 70 (68 - 96) bpm
   BP: 88/45(56) {82/36(49) - 127/85(77)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 103.7 kg
   Height: 69 Inch
             Total In:
                                                                  6,937 mL
                                                                  1,696 mL
   PO:
             TF:
                                                                  1,686 mL
                                                                     56 mL
   IVF:
                                                                  3,180 mL
                                                                  1,250 mL
   Blood products:
   Total out:
                                                                  5,265 mL
                                                                  1,536 mL
   Urine:
                                                                  4,065 mL
                                                                    736 mL
   NG:
   Stool:
                                                                  1,200 mL
                                                                    800 mL
   Drains:
   Balance:
                                                                  1,672 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 463 (320 - 494) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 8 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   107 K/uL
   181 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.9 mEq/L
   15 mg/dL
   108 mEq/L
   146 mEq/L
   25.6 %
   13.9 K/uL
        [image002.jpg]
                             [**2172-6-18**]  04:16 AM
                             [**2172-6-18**]  04:49 PM
                             [**2172-6-18**]  11:46 PM
                             [**2172-6-19**]  03:26 AM
                             [**2172-6-19**]  06:00 AM
                             [**2172-6-20**]  03:43 AM
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
   WBC
   5.2
   6.1
   11.6
   12.2
   13.9
   Hct
   24.7
   23.9
   26.6
   24.9
   25.6
   Plt
   44
   48
   65
   90
   107
   Cr
   0.9
   1.0
   0.9
   0.9
   0.9
   0.8
   0.9
   0.8
   0.8
   Glucose
   189
   186
   208
   257
   [**Telephone/Fax (3) 9441**]
   181
   Other labs: PT / PTT / INR:17.6/43.3/1.6, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/28, Alk Phos / T Bili:99/4.9,
   Amylase / Lipase:43/33, Differential-Neuts:72.0 %, Band:4.0 %,
   Lymph:18.0 %, Mono:2.0 %, Eos:4.0 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.5 g/dL, LDH:136 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Respiratory failure:  Breathing well on PSV 5/5.  Awaiting trach for
   tomorrow
   HOTN:  became hypotensive.   Likely related to lasix drip.  Will keep
   off lasix drip.
   hypernatremia:  improved with IVF
   cirrhosis:  getting lactulose and stooling
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2172-06-23 06:08:00 Physician Resident Progress Note
Chief Complaint:
    - Patient was scheduled to receive tracheostomy but this procedure was
   delayed secondary to hypotension
   - Given hypotension and significant diuresis over 24 hour period, lasix
   drip was discontinued
   - Patient received diagnostic paracentesis without evidence of
   spontaneous bacterial peritonitis
   - He was started on subcutaneous heparin for DVT prophylaxis
   - Patient self extubated and was placed on nasal cannula oxygen which
   he tolerated well overnight
   24 Hour Events:
 SPUTUM CULTURE - At [**2172-6-22**] 10:59 AM
 URINE CULTURE - At [**2172-6-22**] 10:59 AM
 BLOOD CULTURED - At [**2172-6-22**] 11:05 AM
 PARACENTESIS - At [**2172-6-22**] 06:30 PM
 INVASIVE VENTILATION - STOP [**2172-6-22**] 06:45 PM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2172-6-22**] 06:55 PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2172-6-22**] 04:09 PM
   Midazolam (Versed) - [**2172-6-22**] 04:09 PM
   Heparin Sodium (Prophylaxis) - [**2172-6-22**] 10:00 PM
   Pantoprazole (Protonix) - [**2172-6-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Tachypnea, No(t) Wheeze
   Genitourinary: Foley
   Integumentary (skin): No(t) Rash
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2172-6-23**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 73 (69 - 104) bpm
   BP: 106/56(67) {84/37(52) - 156/89(103)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.7 kg (admission): 103.7 kg
   Height: 69 Inch
    CVP: 7 (7 - 13)mmHg
   Total In:
                                                                  3,164 mL
                                                                    390 mL
   PO:
   TF:
                                                                    482 mL
   IVF:
                                                                  1,632 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                  2,739 mL
                                                                    238 mL
   Urine:
                                                                  1,239 mL
                                                                    238 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                    425 mL
                                                                    152 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 491 (309 - 491) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 13 L/min
   Physical Examination
   General Appearance: No(t) No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: No(t) Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person only, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   146 K/uL
   8.2 g/dL
   81 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.8 mEq/L
   16 mg/dL
   107 mEq/L
   145 mEq/L
   26.6 %
   13.0 K/uL
        [image002.jpg]
                             [**2172-6-18**]  11:46 PM
                             [**2172-6-19**]  03:26 AM
                             [**2172-6-19**]  06:00 AM
                             [**2172-6-20**]  03:43 AM
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
                             [**2172-6-22**]  04:18 PM
                             [**2172-6-23**]  02:58 AM
   WBC
   6.1
   11.6
   12.2
   13.9
   13.0
   Hct
   23.9
   26.6
   24.9
   25.6
   26.6
   Plt
   48
   65
   90
   107
   146
   Cr
   0.9
   0.9
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   Glucose
   [**Telephone/Fax (3) **]37
   [**Telephone/Fax (2) 9452**]81
   185
   81
   Other labs: PT / PTT / INR:17.8/46.0/1.6, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:[**12-16**], Alk Phos / T Bili:97/2.1,
   Amylase / Lipase:43/33, Differential-Neuts:74.6 %, Band:4.0 %,
   Lymph:17.9 %, Mono:4.4 %, Eos:2.9 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.0 g/dL, LDH:155 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR Portable [**2172-6-22**]: In comparison with the study of [**6-21**],
   there is little change in
   the appearance of the monitoring and support devices. Bilateral diffuse
   airspace consolidations persist, essentially unchanged.
   Microbiology: Blood culture [**2172-6-22**] - no growth to date
   Urine culture [**2172-6-22**] - pending
   Peritoneal Fluid culture [**2172-6-22**] - no growth to date
   Sputum culture [**2172-6-22**] - contaminated
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ASCITES
 HYPERGLYCEMIA
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Ileus
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CIRRHOSIS OF LIVER, ALCOHOLIC
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], multiple
   ICU transfers, now transferred intubated to ICU s/p respiratory
   failure, likely secondary to aspiration event.
   Respiratory Failure: Stable, off antibiotics, related to aspiration
   event and subsequent [**Doctor Last Name **]
vent settings mostly dependent on mental
   status at this time.
   - given hypotensive episodes overnight, holding lasix gtt for now
   - will defer OR today for trach given transient hypotension although
   suspect this was secondary to overly aggressive diuresis.  Will plan
   for OR again tomorrow with plans for plt>80 and INR<1.5; Vit K 5 mg po
   x 3 days
thoracics following
   - PSV during day, can change to AC as necessary
   - will try to transition to bolus sedation today from continuous
   Hypotension: Several episodes of hypotension to 80s overnight, may be
   secondary to overly aggressive diuresis although must keep infection in
   the differential given rising WBC.  BP now stable since discontinuation
   of the lasix gtt.  Will use cautious IV fluid boluses if necessary to
   MAPs < 55.
   - Infectious w/u as below
   - goal MAP > 55
   Leukocytosis: Pt afebrile but with WBC trending up. [**6-20**] C. diff neg.
   All micro neg to date other than yeast in urine and sputum.
   - cont to trend wbc and add diff as above.  Hasn
t received steroids
   since [**6-17**] so unlikely this relates to current leukocytosis.
   - recheck C. diff, BCx, UCx, Sputum Cx
   - consider further infectious w/u with imaging if spikes fever or
   clinically decompensates
   Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade II
   esophageal varices s/p banding on this prolonged hospitalization.
   -rifaximin and lactulose per OG tube
   -IV PPI [**Hospital1 **]
   -plan for repeat dobhoff placement with trach
   Hypernatremia: Continues to be an active issue, difficult to control,
   requiring intermittent IV D5W and frequent water flushes.  Current
   serum sodium is 146.
   - will restart free water via NGT
   - will check PM sodium and consider restarting D5W
    Anemia: Currently at baseline, no transfusion
   Thrombocytopenia: Improving off abx and sc heparin.  Likely
   multifactorial also related to liver disease.
   - will cautiously restart SC heparin
   Diabetes Mellitus: Standing NPH with HISS, dextrose prn FS<70
   - titrate insulin as necessary
   Alcohol abuse:  folate/MVI
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:  Comments: Humalog sliding scale
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2172-06-23 10:49:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with ETOH cirrhosis, recurrent aspiration.  Patient self
   extubated last night.  has stayed
   off ventilator
   24 Hour Events:
 SPUTUM CULTURE - At [**2172-6-22**] 10:59 AM
 URINE CULTURE - At [**2172-6-22**] 10:59 AM
 BLOOD CULTURED - At [**2172-6-22**] 11:05 AM
 PARACENTESIS - At [**2172-6-22**] 06:30 PM
 INVASIVE VENTILATION - STOP [**2172-6-22**] 06:45 PM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2172-6-22**] 06:55 PM
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2172-6-22**] 04:09 PM
   Midazolam (Versed) - [**2172-6-22**] 04:09 PM
   Heparin Sodium (Prophylaxis) - [**2172-6-22**] 10:00 PM
   Pantoprazole (Protonix) - [**2172-6-23**] 12:00 AM
   Other medications:
   rifaxamin
   b12
   MVI
   chlorhexidine
   protonix
   lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-23**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 95 (68 - 104) bpm
   BP: 130/62(80) {84/37(56) - 156/89(103)} mmHg
   RR: 26 (15 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.7 kg (admission): 103.7 kg
   Height: 69 Inch
   CVP: 3 (3 - 13)mmHg
   Total In:
                                                                  3,164 mL
                                                                    668 mL
   PO:
   TF:
                                                                    482 mL
   IVF:
                                                                  1,632 mL
                                                                    668 mL
   Blood products:
   Total out:
                                                                  2,739 mL
                                                                    418 mL
   Urine:
                                                                  1,239 mL
                                                                    418 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                    425 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 491 (309 - 491) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///32/
   Ve: 13 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): oriented to name only, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   146 K/uL
   81 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.8 mEq/L
   16 mg/dL
   107 mEq/L
   145 mEq/L
   26.6 %
   13.0 K/uL
        [image002.jpg]
                             [**2172-6-18**]  11:46 PM
                             [**2172-6-19**]  03:26 AM
                             [**2172-6-19**]  06:00 AM
                             [**2172-6-20**]  03:43 AM
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
                             [**2172-6-22**]  04:18 PM
                             [**2172-6-23**]  02:58 AM
   WBC
   6.1
   11.6
   12.2
   13.9
   13.0
   Hct
   23.9
   26.6
   24.9
   25.6
   26.6
   Plt
   48
   65
   90
   107
   146
   Cr
   0.9
   0.9
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   Glucose
   [**Telephone/Fax (3) **]37
   [**Telephone/Fax (2) 9452**]81
   185
   81
   Other labs: PT / PTT / INR:17.8/46.0/1.6, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:[**12-16**], Alk Phos / T Bili:97/2.1,
   Amylase / Lipase:43/33, Differential-Neuts:74.6 %, Band:4.0 %,
   Lymph:17.9 %, Mono:4.4 %, Eos:2.9 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.0 g/dL, LDH:155 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Respiratory failure:  Looks ok extubated.  But still at high risk for
   aspiration and reintubation.  So will have thoracics proceed with
   trach.
   cirrhosis:  lactulose on hold while not having dobhoff.
   Anemia:  at baseline
   fevers:  paracentesis with no evidence of SBP.  No clear cause
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-13**] 07:29 AM
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2172-06-24 05:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2172-6-23**] 12:27 PM
   from ij and picc
 PICC LINE - STOP [**2172-6-23**] 07:05 PM
   - [**6-22**] Bcx grew out GNR. Surveillance bcx drawn. Started on [**Last Name (un) 430**] given
   h/o ESBL PNA.
   - Thoracics cancelled him for trach as he was extubated and the trach
   would not prevent aspiration.  They will only do it if we feel it's
   necessary.
   - He continued to do well respiratory-wise over the day so he may not
   need trach.
   - [**Last Name (un) **]-hoff tube placed by Dr. [**Last Name (STitle) 593**] and restarted lactulose and tube
   feeds. On limb restraints x2 and mitts.
   - D/c'd PICC as GNR grew from Bl cx.  Still has CVL in place.
   - Family would still really like him to have trach and DHT so he can go
   to rehab.
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2172-6-24**] 04:09 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-6-23**] 11:19 PM
   Pantoprazole (Protonix) - [**2172-6-23**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-24**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 109 (68 - 109) bpm
   BP: 124/58(64) {98/48(60) - 141/83(92)} mmHg
   RR: 22 (19 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.7 kg (admission): 103.7 kg
   Height: 69 Inch
    CVP: 5 (0 - 8)mmHg
   Total In:
                                                                  1,613 mL
                                                                    422 mL
   PO:
   TF:
                                                                     28 mL
                                                                    175 mL
   IVF:
                                                                  1,494 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                  1,678 mL
                                                                    245 mL
   Urine:
                                                                  1,128 mL
                                                                    245 mL
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                    -65 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: L eye dilated
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Oriented (to): 0, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   174 K/uL
   8.2 g/dL
   176 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.2 mEq/L
   13 mg/dL
   107 mEq/L
   145 mEq/L
   26.6 %
   12.7 K/uL
        [image002.jpg]
                             [**2172-6-19**]  03:26 AM
                             [**2172-6-19**]  06:00 AM
                             [**2172-6-20**]  03:43 AM
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
                             [**2172-6-22**]  04:18 PM
                             [**2172-6-23**]  02:58 AM
                             [**2172-6-24**]  04:34 AM
   WBC
   6.1
   11.6
   12.2
   13.9
   13.0
   12.7
   Hct
   23.9
   26.6
   24.9
   25.6
   26.6
   26.6
   Plt
   48
   65
   90
   107
   146
   174
   Cr
   0.9
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   Glucose
   257
   228
   137
   [**Telephone/Fax (2) 9462**]85
   81
   176
   Other labs: PT / PTT / INR:19.7/49.3/1.8, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:[**12-16**], Alk Phos / T Bili:97/2.1,
   Amylase / Lipase:43/33, Differential-Neuts:74.6 %, Band:4.0 %,
   Lymph:17.9 %, Mono:4.4 %, Eos:2.9 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.0 g/dL, LDH:155 IU/L, Ca++:9.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.3 mg/dL
   Micro: [**2172-6-22**] 6:30 pm Source: Line-PICC. Blood Culture, Routine
   (Preliminary): GRAM NEGATIVE ROD(S).
All other BCx and peritoneal fluid cx NGTD
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], requiring
   multiple ICU transfers for respiratory failure in the setting of
   aspiration events.
   Respiratory Failure: Related to aspiration event and subsequent [**Doctor Last Name **].
   Off abx. Plan had been for trach placement to facilitate management of
   expected future aspiration events but self-extubated [**2172-6-22**] and has
   been managing secretions ok.
   - Readdress issue of trach placement, which girlfriend strongly [**Name2 (NI) 9463**].
   - Followed by Thoracics; would need plt>80 and INR<1.5 for OR.
   - Appears euvolemic so hold off on further diuresis
   Leukocytosis: Pt afebrile with stably elevated WBC. Started on
   meropenem for GNR growing in 1 of 2 sets of bcx from [**6-20**] (drawn from
   PICC). All other micro neg to date other than yeast in urine and
   sputum. Peritoneal fluid not c/w SBP. Hasn
t received steroids since
   [**6-17**] so unlikely this relates to current leukocytosis.
   - Cont to trend wbc.
   - Cont meropenem while awaiting sensitivities given h/o multiresistant
   enterobacter in sputum
   - f/u blood and peritoneal cx
   - attempt peripherals and pull CVL if able.
   Hypotension: BP stable. [**Month (only) 60**] have been secondary to lasix gtt v. sepsis
   given leukocytosis with left shift and GNR now growing from Bcx.
   - Abx as above
   - Albumin boluses as necessary for MAPs < 55
   Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade II
   esophageal varices s/p banding on this prolonged hospitalization.
   Dobhoff replaced yesterday.
   - Resuming rifaximin and lactulose with Dobhoff in place
   - IV PPI [**Hospital1 **]
   Hypernatremia: Improved with free water flushes.  Serum sodium stable
   at 145.
   - Continue free water flushes via NGT
    Anemia: Currently at baseline, no transfusion.
   Thrombocytopenia: Resolved. Likely [**1-27**] to BM suppression from abx
   (vanco, meropenem) or acute illness, although may have component from
   underlying liver disease.
   - Monitor as meropenem restarted
   Diabetes Mellitus: Standing NPH with HISS, dextrose prn FS<70
   - titrate insulin as necessary
   Alcohol abuse: Folate/MVI
   ICU Care
   Nutrition: Dobhoff replaced [**2172-6-23**]
   Fibersource HN (Full) - [**2172-6-23**] 11:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-6-16**] 08:00 AM
 Right IJ
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments: With girlfriend and daughter
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2172-06-24 09:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with ETOH cirrhosis  and recurrent aspiration.
   24 Hour Events:
 BLOOD CULTURED - At [**2172-6-23**] 12:27 PM
   from ij and picc
 PICC LINE - STOP [**2172-6-23**] 07:05 PM
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2172-6-24**] 04:09 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-6-23**] 11:20 PM
   Heparin Sodium (Prophylaxis) - [**2172-6-24**] 08:53 AM
   Other medications:
   lactulose
   vitamin B12
    SSI
   meropenem
   albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-24**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 97 (87 - 113) bpm
   BP: 99/61(68) {98/48(60) - 141/83(92)} mmHg
   RR: 19 (19 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.7 kg (admission): 103.7 kg
   Height: 69 Inch
   CVP: 5 (0 - 8)mmHg
   Total In:
                                                                  1,613 mL
                                                                    777 mL
   PO:
   TF:
                                                                     28 mL
                                                                    340 mL
   IVF:
                                                                  1,494 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  1,678 mL
                                                                  1,445 mL
   Urine:
                                                                  1,128 mL
                                                                    595 mL
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                    -65 mL
                                                                   -667 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   174 K/uL
   176 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.2 mEq/L
   13 mg/dL
   107 mEq/L
   145 mEq/L
   26.6 %
   12.7 K/uL
        [image002.jpg]
                             [**2172-6-19**]  03:26 AM
                             [**2172-6-19**]  06:00 AM
                             [**2172-6-20**]  03:43 AM
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
                             [**2172-6-22**]  04:18 PM
                             [**2172-6-23**]  02:58 AM
                             [**2172-6-24**]  04:34 AM
   WBC
   6.1
   11.6
   12.2
   13.9
   13.0
   12.7
   Hct
   23.9
   26.6
   24.9
   25.6
   26.6
   26.6
   Plt
   48
   65
   90
   107
   146
   174
   Cr
   0.9
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   Glucose
   257
   228
   137
   [**Telephone/Fax (2) 9462**]85
   81
   176
   Other labs: PT / PTT / INR:19.7/49.3/1.8, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:[**12-16**], Alk Phos / T Bili:97/2.1,
   Amylase / Lipase:43/33, Differential-Neuts:74.6 %, Band:4.0 %,
   Lymph:17.9 %, Mono:4.4 %, Eos:2.9 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.0 g/dL, LDH:155 IU/L, Ca++:9.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Respiratory failure:  stable off ventilator.  Able to clear his
   secretions.
   cirrhosis:  Has NGT and getting lactulose and rifaxamin
   bacteremia:  PIC line (from with GNRs growing) has been removed.
   continue meropenem.  no other source.  Will try to get peripherals and
   d/c central line if possible
   hypernatremia:  stable
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2172-6-23**] 11:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2172-06-25 04:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Clinically accepted by several MACU-type Rehabs
   - [**6-22**] Bcx growing [**Last Name (un) 430**]-sensitive GNR (same [**First Name9 (NamePattern2) 3798**] [**Last Name (un) **] as prior
   enterobacter from sputum)
   - [**6-23**] Bcx from LIJ growing GPC, started on vanc.
   - Ordered for new PICC, but unable to get it due to GPC in blood cx.
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2172-6-24**] 08:00 PM
   Vancomycin - [**2172-6-24**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-6-24**] 11:27 PM
   Pantoprazole (Protonix) - [**2172-6-24**] 11:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-25**] 04:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 104 (80 - 116) bpm
   BP: 133/52(44) {97/41(44) - 142/96(101)} mmHg
   RR: 22 (17 - 28) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.7 kg (admission): 103.7 kg
   Height: 69 Inch
    CVP: 56 (-5 - 56)mmHg
   Total In:
                                                                  2,175 mL
                                                                    327 mL
   PO:
   TF:
                                                                    950 mL
                                                                    279 mL
   IVF:
                                                                    760 mL
                                                                     48 mL
   Blood products:
   Total out:
                                                                  2,415 mL
                                                                    170 mL
   Urine:
                                                                  1,565 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -240 mL
                                                                    157 mL
   Respiratory support
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: L eye dilated
   Head, Ears, Nose, Throat: Normocephalic, Dobhoff in place
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest: Symmetric, coarse breath sounds anteriorly
   bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, + fluid
   wave, + bulging flanks
   Extremities: Warm and well perfused, 2+ edema in both upper and lower
   extremities, 1+ pulses in distal extremities
   Skin:  Not assessed
   Neurologic: Unable to follow simple commands, + asterixis, oriented x 0
   Labs / Radiology
        [image002.jpg]
                             [**2172-6-19**]  03:26 AM
                             [**2172-6-19**]  06:00 AM
                             [**2172-6-20**]  03:43 AM
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
                             [**2172-6-22**]  04:18 PM
                             [**2172-6-23**]  02:58 AM
                             [**2172-6-24**]  04:34 AM
   WBC
   6.1
   11.6
   12.2
   13.9
   13.0
   12.7
   Hct
   23.9
   26.6
   24.9
   25.6
   26.6
   26.6
   Plt
   48
   65
   90
   107
   146
   174
   Cr
   0.9
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   Glucose
   257
   228
   137
   [**Telephone/Fax (2) 9462**]85
   81
   176
   Other labs: PT / PTT / INR:19.7/49.3/1.8, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:[**12-16**], Alk Phos / T Bili:97/2.1,
   Amylase / Lipase:43/33, Differential-Neuts:74.6 %, Band:4.0 %,
   Lymph:17.9 %, Mono:4.4 %, Eos:2.9 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.0 g/dL, LDH:155 IU/L, Ca++:9.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.3 mg/dL
   Microbiology:
[**2172-6-22**] 6:30 pm BLOOD CULTURE      Source: Line-PICC.
   Blood Culture, Routine (Preliminary):
      GRAM NEGATIVE ROD(S).    PRELIMINARY SENSITIVITY.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             GRAM NEGATIVE ROD(S)
                             |
CEFTAZIDIME-----------       R
CEFTRIAXONE-----------       R
CIPROFLOXACIN---------       R
GENTAMICIN------------       S
MEROPENEM-------------       S
PIPERACILLIN/TAZO-----       R
TOBRAMYCIN------------       S
[**2172-6-23**] 11:35 am BLOOD CULTURE      Source: Line-left ij 2 OF 2.
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CLUSTERS.
   Imaging:
   Portable CXR [**2172-6-24**]: Persistent, widespread multifocal opacities.
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], requiring
   multiple ICU transfers for respiratory failure in the setting of
   aspiration events.
   Respiratory Failure: Related to aspiration event and subsequent [**Doctor Last Name **].
   Plan had been for trach placement to facilitate management of expected
   future aspiration events but self-extubated [**2172-6-22**] and has been
   managing secretions acceptably since extubation.
   - No plans for tracheostomy at present
   - intermittent suction
   - rehab screening
   Bacteremia:  Patient with gram negative rods sensitive to meropenem on
   [**6-22**] and gram positive cocci from [**6-23**].  Now back on vancomycin and
   meropenem.  Patient continues to have IJ in place.  Unable to obtain
   peripheral access yesterday.  Will attempt to place ultrasound guided
   peripherals today.  If unable will have to re-site central line.
   - attempt to obtain ultrasound guided peripheral or EJ today, otherwise
   re-site central line
   - vancomycin and meropenem
   - follow up surveillance cultures
   Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade II
   esophageal varices s/p banding on this prolonged hospitalization.
   Dobhoff now in place for tube feeds.
   - continue rifaximin, lactulose
   - continue tube feeds
   - continue IV PPI [**Hospital1 **]
   Hypernatremia: Improved with free water flushes.  Serum sodium stable
   at 146.
   - Continue free water flushes via NGT
    Anemia: Currently at baseline, no transfusion.
   Thrombocytopenia: Resolved. Likely [**1-27**] to BM suppression from abx
   (vanco, meropenem) or acute illness, although may have component from
   underlying liver disease.
   - Monitor while in meropenem
   Diabetes Mellitus: Standing NPH with HISS, dextrose prn FS<70
   - titrate insulin as necessary
   Alcohol abuse: Folate/MVI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2172-6-23**] 11:00 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Comments: With girlfriend and daughter
   [**Name (NI) 66**] status: Full code
   Dispo : ICU

2172-06-25 10:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with ETOH cirrhosis.  had GPCs from blood culture
   24 Hour Events:
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-24**] 09:00 PM
   Meropenem - [**2172-6-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-6-24**] 11:49 PM
   Heparin Sodium (Prophylaxis) - [**2172-6-25**] 08:00 AM
   Other medications:
   lactulose
   rifaxamin
   SSI
   albuterol/atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-25**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 93 (80 - 116) bpm
   BP: 122/55(70) {97/39(44) - 142/96(101)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.7 kg (admission): 103.7 kg
   Height: 69 Inch
   CVP: 8 (-3 - 56)mmHg
   Total In:
                                                                  2,175 mL
                                                                  1,302 mL
   PO:
   TF:
                                                                    950 mL
                                                                    657 mL
   IVF:
                                                                    760 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                  2,415 mL
                                                                  1,400 mL
   Urine:
                                                                  1,565 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -240 mL
                                                                    -97 mL
   Respiratory support
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name only, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   7.9 g/dL
   179 K/uL
   247 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.5 mEq/L
   13 mg/dL
   109 mEq/L
   146 mEq/L
   25.1 %
   14.4 K/uL
        [image002.jpg]
                             [**2172-6-19**]  06:00 AM
                             [**2172-6-20**]  03:43 AM
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
                             [**2172-6-22**]  04:18 PM
                             [**2172-6-23**]  02:58 AM
                             [**2172-6-24**]  04:34 AM
                             [**2172-6-25**]  04:59 AM
   WBC
   11.6
   12.2
   13.9
   13.0
   12.7
   14.4
   Hct
   26.6
   24.9
   25.6
   26.6
   26.6
   25.1
   Plt
   65
   90
   107
   146
   174
   179
   Cr
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   0.8
   Glucose
   [**Telephone/Fax (3) 9486**]
   185
   81
   176
   247
   Other labs: PT / PTT / INR:20.3/65.3/1.9, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:[**12-16**], Alk Phos / T Bili:97/2.1,
   Amylase / Lipase:43/33, Differential-Neuts:74.6 %, Band:4.0 %,
   Lymph:17.9 %, Mono:4.4 %, Eos:2.9 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.0 g/dL, LDH:155 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Microbiology: [**6-22**] blood cx:  GNRs
   [**6-23**] blood cx:  GPCs
   Assessment and Plan
   Respiratory failure:  Breathing well
   Bacteremia:  on meropenem for GNRs.  On vanco for GPCs from central
   line.  WIll try to place EJ and replace line.
   Cirrhosis:  continue lactulose
   hypernatremia: stable
   delirium: still deliriuos - toxic metabolic
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2172-6-23**] 11:00 PM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-6-16**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2172-06-26 05:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Received Zydis 5 mg SL with improvement in agitation
   - Placed right EJ but given significant difficulty obtaining this
   access was uncomfortable removing central line
   - Surveillance cultures sent
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-25**] 09:00 PM
   Meropenem - [**2172-6-26**] 04:04 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2172-6-25**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2172-6-25**] 09:30 PM
   Pantoprazole (Protonix) - [**2172-6-26**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-26**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 115 (86 - 115) bpm
   BP: 105/54(67) {100/39(49) - 136/105(108)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.7 kg (admission): 103.7 kg
   Height: 69 Inch
    CVP: 5 (2 - 42)mmHg
   Total In:
                                                                  2,757 mL
                                                                    417 mL
   PO:
   TF:
                                                                    687 mL
                                                                    128 mL
   IVF:
                                                                    990 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  2,195 mL
                                                                    330 mL
   Urine:
                                                                  1,095 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    562 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: L eye dilated
   Head, Ears, Nose, Throat: Normocephalic, Dobhoff in place
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest: Symmetric, coarse breath sounds anteriorly
   bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, + fluid
   wave, + bulging flanks
   Extremities: Warm and well perfused, 2+ edema in both upper and lower
   extremities, 1+ pulses in distal extremities
   Skin:  Not assessed
   Neurologic: Unable to follow simple commands, + asterixis, oriented x 0
   Labs / Radiology
   200 K/uL
   8.5 g/dL
   134 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.0 mEq/L
   12 mg/dL
   111 mEq/L
   146 mEq/L
   26.7 %
   14.6 K/uL
        [image002.jpg]
                             [**2172-6-20**]  03:43 AM
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
                             [**2172-6-22**]  04:18 PM
                             [**2172-6-23**]  02:58 AM
                             [**2172-6-24**]  04:34 AM
                             [**2172-6-25**]  04:59 AM
                             [**2172-6-26**]  04:32 AM
   WBC
   11.6
   12.2
   13.9
   13.0
   12.7
   14.4
   14.6
   Hct
   26.6
   24.9
   25.6
   26.6
   26.6
   25.1
   26.7
   Plt
   65
   90
   107
   146
   174
   179
   200
   Cr
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   0.8
   0.9
   Glucose
   137
   254
   212
   164
   181
   185
   81
   176
   247
   134
   Other labs: PT / PTT / INR:20.3/69.7/1.9, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:[**12-16**], Alk Phos / T Bili:97/2.1,
   Amylase / Lipase:43/33, Differential-Neuts:74.6 %, Band:4.0 %,
   Lymph:17.9 %, Mono:4.4 %, Eos:2.9 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.0 g/dL, LDH:155 IU/L, Ca++:10.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR Portable [**2172-6-25**]: Feeding tube and central venous catheter
   remain in place.
   Cardiomediastinal contours are unchanged. Widespread bilateral alveolar
   and interstitial opacities have slightly worsened in the interval and
   may reflect
   asymmetric pulmonary edema, with or without superimposed process such
   as
   infection or aspiration.
   Microbiology: [**2172-6-23**] - blood cultures 1/2 bottles with gram positive
   cocci, not yet speciated
   [**2172-6-23**] - PICC tip culture pending
   [**2172-6-26**] - blood cultures pending
   6/29/9 - blood cultures with enterobacter sensitive to meropenem
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ASCITES
 HYPERGLYCEMIA
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Ileus
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CIRRHOSIS OF LIVER, ALCOHOLIC
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], requiring
   multiple ICU transfers for respiratory failure in the setting of
   aspiration events.
   Respiratory Failure: Related to aspiration event and subsequent [**Doctor Last Name **].
   Plan had been for trach placement to facilitate management of expected
   future aspiration events but self-extubated [**2172-6-22**] and has been
   managing secretions acceptably since extubation.
   - No plans for tracheostomy at present
   - intermittent suction
   - rehab screening
   Bacteremia:  Patient with enterobacter sensitive to meropenem on [**6-22**]
   and gram positive cocci not yet speciated from [**6-23**].  Currently on
   vancomycin and meropenem.  Patient continues to have IJ in place.  Able
   to place right EJ 18 g yesterday but difficulty obtaining this
   peripheral line and need for further access made us reluctant to remove
   central line.  Currently not safe to place central line given patient
   encephalopathy.
   - await speciation of gram positive cocci.  If not contaminant will
   need to remove IJ
   - vancomycin and meropenem
   - follow up surveillance cultures
   Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade II
   esophageal varices s/p banding on this prolonged hospitalization.
   Dobhoff now in place for tube feeds.
   - continue rifaximin, lactulose
   - continue tube feeds
   - continue IV PPI [**Hospital1 **]
   Hypernatremia: Improved with free water flushes.  Serum sodium stable
   at 146.
   - Continue free water flushes via NGT
    Anemia: Currently at baseline, no transfusion inducated.
   Thrombocytopenia: Resolved. Likely [**1-27**] to BM suppression from abx
   (vanco, meropenem) or acute illness, although may have component from
   underlying liver disease.
   - Monitor while in meropenem
   Diabetes Mellitus: Standing NPH with HISS, dextrose prn FS<70
   - titrate insulin as necessary
   Alcohol abuse: Folate/MVI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2172-6-26**] 04:03 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-6-16**] 08:00 AM
   18 Gauge - [**2172-6-26**] 02:12 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Comments: With girlfriend and daughter
   [**Name (NI) 66**] status: Full code
   Dispo : ICU

2172-06-26 09:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - PICC placed overnight
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-25**] 09:00 PM
   Meropenem - [**2172-6-26**] 04:04 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2172-6-25**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2172-6-25**] 09:30 PM
   Pantoprazole (Protonix) - [**2172-6-26**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-26**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.7
C (98.1
   HR: 95 (86 - 115) bpm
   BP: 106/41(56) {100/41(49) - 136/105(108)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 103.7 kg
   Height: 69 Inch
   CVP: 5 (2 - 42)mmHg
   Total In:
                                                                  2,757 mL
                                                                  1,371 mL
   PO:
   TF:
                                                                    687 mL
                                                                    385 mL
   IVF:
                                                                    990 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  2,195 mL
                                                                  1,150 mL
   Urine:
                                                                  1,095 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    562 mL
                                                                    221 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   200 K/uL
   134 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.0 mEq/L
   12 mg/dL
   111 mEq/L
   146 mEq/L
   26.7 %
   14.6 K/uL
        [image002.jpg]
                             [**2172-6-20**]  03:43 AM
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
                             [**2172-6-22**]  04:18 PM
                             [**2172-6-23**]  02:58 AM
                             [**2172-6-24**]  04:34 AM
                             [**2172-6-25**]  04:59 AM
                             [**2172-6-26**]  04:32 AM
   WBC
   11.6
   12.2
   13.9
   13.0
   12.7
   14.4
   14.6
   Hct
   26.6
   24.9
   25.6
   26.6
   26.6
   25.1
   26.7
   Plt
   65
   90
   107
   146
   174
   179
   200
   Cr
   0.9
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   0.8
   0.9
   Glucose
   137
   254
   212
   164
   181
   185
   81
   176
   247
   134
   Other labs: PT / PTT / INR:20.3/69.7/1.9, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:[**12-16**], Alk Phos / T Bili:97/2.1,
   Amylase / Lipase:43/33, Differential-Neuts:74.6 %, Band:4.0 %,
   Lymph:17.9 %, Mono:4.4 %, Eos:2.9 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.0 g/dL, LDH:155 IU/L, Ca++:10.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Imaging: CXR - Stable bilateral interstitial opacities, PICC line in
   good position
   Microbiology: [**6-23**] Blood - GPC, GNR
   [**6-22**] Blood - Enterococcus [**Last Name (un) **] to meropenem
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], requiring
   multiple ICU transfers for respiratory failure in the setting of
   aspiration events.
   Respiratory Failure: Related to aspiration event and subsequent [**Doctor Last Name **].
   Plan had been for trach placement to facilitate management of expected
   future aspiration events but self-extubated [**2172-6-22**] and has been
   managing secretions acceptably since extubation.
   - No plans for tracheostomy at present
   - intermittent suction
   - rehab screening
   Bacteremia:  Patient with enterobacter sensitive to meropenem on [**6-22**]
   and gram positive cocci not yet speciated from [**6-23**].  Currently on
   vancomycin and meropenem.  Patient continues to have IJ in place.  Able
   to place right EJ 18 g yesterday but difficulty obtaining this
   peripheral line and need for further access made us reluctant to remove
   central line.  Currently not safe to place central line given patient
   encephalopathy.
   - await speciation of gram positive cocci.  If not contaminant will
   need to remove IJ
   - vancomycin and meropenem
   - follow up surveillance cultures
   Alcoholic Cirrhosis: Complicated by hepatic encephalopathy and grade II
   esophageal varices s/p banding on this prolonged hospitalization.
   Dobhoff now in place for tube feeds.
   - continue rifaximin, lactulose
   - continue tube feeds
   - continue IV PPI [**Hospital1 **]
   Hypernatremia: Improved with free water flushes.  Serum sodium stable
   at 146.
   - Continue free water flushes via NGT
    Anemia: Currently at baseline, no transfusion inducated.
   Thrombocytopenia: Resolved. Likely [**1-27**] to BM suppression from abx
   (vanco, meropenem) or acute illness, although may have component from
   underlying liver disease.
   - Monitor while in meropenem
   Diabetes Mellitus: Standing NPH with HISS, dextrose prn FS<70
   - titrate insulin as necessary
   Alcohol abuse: Folate/MVI
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2172-6-26**] 04:03 AM 70 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-6-16**] 08:00 AM
   18 Gauge - [**2172-6-26**] 02:12 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes
   Patient is critically ill

2172-06-27 08:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - GPC speciated as 1/2 bottles of coag-neg staph
   - FWF increased for hypernatremia
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-26**] 09:00 PM
   Meropenem - [**2172-6-27**] 03:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-6-26**] 08:09 PM
   Pantoprazole (Protonix) - [**2172-6-27**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-27**] 08:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.3
   HR: 103 (87 - 115) bpm
   BP: 117/74(85) {104/41(56) - 136/48,209(103)} mmHg
   RR: 25 (17 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92 kg (admission): 103.7 kg
   Height: 69 Inch
             Total In:
                                                                  4,277 mL
                                                                  2,241 mL
   PO:
             TF:
                                                                  1,397 mL
                                                                    604 mL
   IVF:
                                                                    960 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  2,793 mL
                                                                    810 mL
   Urine:
                                                                  1,143 mL
                                                                    410 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                  1,484 mL
                                                                  1,431 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   178 K/uL
   152 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   13 mg/dL
   113 mEq/L
   148 mEq/L
   26.8 %
   13.6 K/uL
        [image002.jpg]
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
                             [**2172-6-22**]  04:18 PM
                             [**2172-6-23**]  02:58 AM
                             [**2172-6-24**]  04:34 AM
                             [**2172-6-25**]  04:59 AM
                             [**2172-6-26**]  04:32 AM
                             [**2172-6-27**]  02:54 AM
   WBC
   12.2
   13.9
   13.0
   12.7
   14.4
   14.6
   13.6
   Hct
   24.9
   25.6
   26.6
   26.6
   25.1
   26.7
   26.8
   Plt
   90
   107
   146
   174
   179
   200
   178
   Cr
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   0.8
   0.9
   0.9
   Glucose
   [**Telephone/Fax (3) 9452**]81
   185
   81
   176
   247
   134
   152
   Other labs: PT / PTT / INR:20.2/62.7/1.9, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:[**12-16**], Alk Phos / T Bili:97/2.1,
   Amylase / Lipase:43/33, Differential-Neuts:74.6 %, Band:4.0 %,
   Lymph:17.9 %, Mono:4.4 %, Eos:2.9 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.0 g/dL, LDH:155 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], requiring
   multiple ICU transfers for respiratory failure in the setting of
   aspiration events.  Intubated x 3, now self-extubated.
   Respiratory Failure: Related to aspiration event and subsequent [**Doctor Last Name **].
   Plan had been for trach placement to facilitate management of expected
   future aspiration events but self-extubated [**2172-6-22**] and has been
   managing secretions acceptably since extubation.
   - No plans for tracheostomy at present
   - intermittent suction
   - Accepted for rehab Monday
 will stay here through weekend
   Bacteremia:  Patient with enterobacter sensitive to meropenem on [**6-22**].
   Gram positive cocci appear to be [**Last Name (LF) 9503**], [**First Name3 (LF) **] vanc d/c
   - Continue meropenem
 Day [**5-7**]
   - Follow up surveillance cultures
   Alcoholic Cirrhosis: On rifaximin, lactulose,  PPI, folate, MV
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2172-6-27**] 04:03 AM 70 mL/hour via Dophoff
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2172-6-26**] 02:12 AM
   PICC Line - [**2172-6-26**] 10:13 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. Continue with the
   current plan and trnasfer to rehab in 2 days.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2172-6-27**] 12:57 ------

2172-06-28 05:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Increased asterixis. [**Month (only) 60**] be secondary to irregular lactulose dosing
   (based on stool output). Decreased lactulose to 30mg q6h. pCO2 41 on
   VBG. Not uremic.
   - 3pm Na unchanged at 148, likely [**1-27**] large stool output. Added D5 @
   100cc/h. 2300 Na 145.
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-26**] 09:00 PM
   Meropenem - [**2172-6-27**] 08:22 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-6-27**] 08:23 PM
   Pantoprazole (Protonix) - [**2172-6-28**] 12:02 AM
   Vecuronium - [**2172-6-28**] 03:30 AM
   Propofol - [**2172-6-28**] 03:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-28**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 103 (92 - 117) bpm
   BP: 122/56(72) {101/34(58) - 157/75(207)} mmHg
   RR: 20 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92 kg (admission): 103.7 kg
   Height: 69 Inch
             Total In:
                                                                  6,590 mL
                                                                  1,925 mL
   PO:
             TF:
                                                                  1,680 mL
                                                                    284 mL
   IVF:
                                                                  1,190 mL
                                                                  1,341 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                    150 mL
   Urine:
                                                                    815 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,025 mL
                                                                  1,775 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: L eye dilated
   Head, Ears, Nose, Throat: Normocephalic, Dobhoff in place
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest: Symmetric, coarse breath sounds anteriorly
   bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, + fluid
   wave, + bulging flanks
   Extremities: Warm and well perfused, 2+ edema in both upper and lower
   extremities, 1+ pulses in distal extremities
   Skin:  Not assessed
   Neurologic: + asterixis, alert & oriented x 2
   Labs / Radiology
   178 K/uL
   8.3 g/dL
   152 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   13 mg/dL
   113 mEq/L
   145 mEq/L
   26.8 %
   13.6 K/uL
        [image002.jpg]
                             [**2172-6-20**]  05:01 PM
                             [**2172-6-21**]  03:39 AM
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
                             [**2172-6-22**]  04:18 PM
                             [**2172-6-23**]  02:58 AM
                             [**2172-6-24**]  04:34 AM
                             [**2172-6-25**]  04:59 AM
                             [**2172-6-26**]  04:32 AM
                             [**2172-6-27**]  02:54 AM
   WBC
   12.2
   13.9
   13.0
   12.7
   14.4
   14.6
   13.6
   Hct
   24.9
   25.6
   26.6
   26.6
   25.1
   26.7
   26.8
   Plt
   90
   107
   146
   174
   179
   200
   178
   Cr
   0.8
   0.9
   0.8
   0.8
   0.8
   0.8
   0.9
   0.8
   0.9
   0.9
   Glucose
   [**Telephone/Fax (3) 9452**]81
   185
   81
   176
   247
   134
   152
   Other labs: PT / PTT / INR:20.2/62.7/1.9, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:[**12-16**], Alk Phos / T Bili:97/2.1,
   Amylase / Lipase:43/33, Differential-Neuts:74.6 %, Band:4.0 %,
   Lymph:17.9 %, Mono:4.4 %, Eos:2.9 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:3.0 g/dL, LDH:155 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   [**2172-6-22**] Bcx (prelim): Enterobacter cloacae
   [**2172-6-23**] Bcx (prelim): Coag neg staph from 1 of 2 sets
   [**2172-6-23**] PICC cath tip cx: No sig growth.
   [**2172-6-26**] LIJ cath tip cx: NGTD
   [**Date range (1) 9509**] Bcx: NGTD
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], requiring
   multiple ICU transfers for respiratory failure in the setting of
   aspiration events.
   Respiratory Failure: Related to aspiration event and subsequent [**Doctor Last Name **].
   Plan had been for trach placement to facilitate management of expected
   future aspiration events but self-extubated [**2172-6-22**] and has been
   managing secretions acceptably since extubation.
   - Plan for discharge to rehab on Monday
   - Tracheostomy not indicated
   - Intermittent suction
   Bacteremia: Patient with enterobacter sensitive to meropenem on [**6-22**].
   Coag negative staph from [**6-23**].  Currently on meropenem.  Now PICC in
   place and IJ removed, tip cx negative.
   - continue meropenem x 14 day course (last day [**7-6**])
   - follow up surveillance cultures
   Alcoholic Cirrhosis/hepatic encephalopathy: Complicated by grade II
   esophageal varices s/p banding on this prolonged hospitalization.
   Dobhoff now in place for tube feeds and GI meds. Increased
   tremor/asterixis today but stooling well.
   - continue rifaximin, lactulose (dose decreased to decrease number of
   skipped doses)
   - continue tube feeds
   - continue IV PPI [**Hospital1 **]
   Hypernatremia: Serum Na now normalized with free water repletion
   although still with large losses via stools
   - continue free water flushes 200cc q2h via NGT
   - adjust per q6h Na check prn
    Anemia: Currently at baseline, no transfusion indicated.
   Thrombocytopenia: Likely [**1-27**] to BM suppression from antibiotics or
   acute illness, although may have component from underlying liver
   disease. Plt slowly downtrending since meropenem restarted but may be
   nl fluctuation.
   - cont to monitor while on meropenem
   Diabetes Mellitus: Standing NPH with HISS, dextrose prn FS<70
   - titrate insulin as necessary
   Alcohol abuse: Folate/MVI
   Diarrhea: Likely [**1-27**] lactulose but will check C. diff given increased
   stool output
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2172-6-26**] 02:12 AM
   PICC Line - [**2172-6-26**] 10:13 AM
   Prophylaxis:
   DVT: Boots, SQ heparin
   Stress ulcer: PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU with plan to d/c to Rehab on Monday

2172-06-29 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - mental status significantly improved, now oriented to person
   - sodium improved with D5W so this was discontinued
   - serium sodium stable with 300 cc free water flushes q4H
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-26**] 09:00 PM
   Meropenem - [**2172-6-29**] 04:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-6-28**] 04:15 PM
   Pantoprazole (Protonix) - [**2172-6-29**] 12:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-29**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 101 (81 - 109) bpm
   BP: 105/54(67) {80/30(44) - 115/88(95)} mmHg
   RR: 24 (17 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.5 kg (admission): 103.7 kg
   Height: 69 Inch
             Total In:
                                                                  5,712 mL
                                                                  1,273 mL
   PO:
             TF:
                                                                  1,687 mL
                                                                    449 mL
   IVF:
                                                                  1,115 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  1,099 mL
                                                                    200 mL
   Urine:
                                                                    799 mL
                                                                    200 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  4,613 mL
                                                                  1,073 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: L eye dilated
   Head, Ears, Nose, Throat: Normocephalic, Dobhoff in place
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest: Symmetric, coarse breath sounds anteriorly
   bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, + fluid
   wave, + bulging flanks
   Extremities: Warm and well perfused, 2+ edema in both upper and lower
   extremities, 1+ pulses in distal extremities
   Skin:  Not assessed
   Neurologic: + asterixis, alert & oriented x 2
   Labs / Radiology
   121 K/uL
   7.2 g/dL
   239 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.7 mEq/L
   12 mg/dL
   106 mEq/L
   139 mEq/L
   22.5 %
   14.9 K/uL
        [image002.jpg]
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
                             [**2172-6-22**]  04:18 PM
                             [**2172-6-23**]  02:58 AM
                             [**2172-6-24**]  04:34 AM
                             [**2172-6-25**]  04:59 AM
                             [**2172-6-26**]  04:32 AM
                             [**2172-6-27**]  02:54 AM
                             [**2172-6-28**]  05:03 AM
                             [**2172-6-29**]  04:43 AM
   WBC
   13.9
   13.0
   12.7
   14.4
   14.6
   13.6
   11.9
   14.9
   Hct
   25.6
   26.6
   26.6
   25.1
   26.7
   26.8
   24.7
   22.5
   Plt
   107
   146
   174
   179
   200
   178
   150
   121
   Cr
   0.8
   0.8
   0.8
   0.8
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   Glucose
   164
   181
   185
   81
   176
   247
   134
   152
   183
   239
   Other labs: PT / PTT / INR:20.6/70.3/1.9, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/32, Alk Phos / T Bili:130/2.2,
   Amylase / Lipase:43/33, Differential-Neuts:74.6 %, Band:4.0 %,
   Lymph:17.9 %, Mono:4.4 %, Eos:2.9 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:2.4 g/dL, LDH:155 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Microbiology:
   Blood cultures [**2172-6-27**]: no growth
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ASCITES
 HYPERGLYCEMIA
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Ileus
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CIRRHOSIS OF LIVER, ALCOHOLIC
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], requiring
   multiple ICU transfers for respiratory failure in the setting of
   aspiration events.
   Respiratory Failure: Related to aspiration event and subsequent [**Doctor Last Name **].
   Plan had been for trach placement to facilitate management of expected
   future aspiration events but self-extubated [**2172-6-22**] and has been
   managing secretions acceptably since extubation
   - Plan for screen for rehab today
   - Tracheostomy not indicated
   - Intermittent suction
   Bacteremia: Patient with enterobacter sensitive to meropenem on [**6-22**].
   Coag negative staph from [**6-23**].  Currently on meropenem.  Now PICC in
   place and IJ removed, tip cx negative.
   - continue meropenem x 14 day course (last day [**7-6**])
   - follow up surveillance cultures
   Alcoholic Cirrhosis/hepatic encephalopathy: Complicated by grade II
   esophageal varices s/p banding on this prolonged hospitalization.
   Dobhoff now in place for tube feeds and GI meds. Increased
   tremor/asterixis today but stooling well.
   - continue rifaximin, lactulose (dose decreased to decrease number of
   skipped doses)
   - continue tube feeds
   - continue IV PPI [**Hospital1 **]
   Hypernatremia: Serum Na now normalized with free water repletion
   although still with large losses via stools
   - continue free water flushes 300 q 4H per NGt
   - daily sodium checks
    Anemia: Slowly trending down over last several days.
   - monitor.
   - PM hematocrit, if < 21 will transfuse
   - guaiac all stools
   Thrombocytopenia: Likely [**1-27**] to BM suppression from antibiotics or
   acute illness, although may have component from underlying liver
   disease. Plt slowly downtrending since meropenem restarted but may be
   nl fluctuation.
   - cont to monitor while on meropenem
   Diabetes Mellitus: Standing NPH with HISS, dextrose prn FS<70
   - titrate insulin as necessary
   Alcohol abuse: Folate/MVI
   Diarrhea: Likely [**1-27**] lactulose
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2172-6-26**] 02:12 AM
   PICC Line - [**2172-6-26**] 10:13 AM
   Prophylaxis:
   DVT: Boots, SQ heparin
   Stress ulcer: PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU with plan to d/c to Rehab today

2172-06-29 10:24:00 Physician Attending Progress Note
Chief Complaint: AMS, hepatic encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Multiple infections
   24 Hour Events:
   Mental status improved, AAO x 1.
   Stooling well.
   Na imnproved.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2172-6-26**] 09:00 PM
   Meropenem - [**2172-6-29**] 04:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-6-29**] 12:52 AM
   Heparin Sodium (Prophylaxis) - [**2172-6-29**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-29**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 94 (81 - 109) bpm
   BP: 127/55(67) {80/30(44) - 127/77(82)} mmHg
   RR: 20 (17 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 103.7 kg
   Height: 69 Inch
             Total In:
                                                                  5,712 mL
                                                                  1,612 mL
   PO:
             TF:
                                                                  1,687 mL
                                                                    712 mL
   IVF:
                                                                  1,115 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,099 mL
                                                                    310 mL
   Urine:
                                                                    799 mL
                                                                    310 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  4,613 mL
                                                                  1,302 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: all present
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: verbal stimuli
   Labs / Radiology
   7.2 g/dL
   121 K/uL
   239 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.7 mEq/L
   12 mg/dL
   106 mEq/L
   139 mEq/L
   22.5 %
   14.9 K/uL
        [image002.jpg]
                             [**2172-6-21**]  04:08 PM
                             [**2172-6-22**]  03:25 AM
                             [**2172-6-22**]  04:18 PM
                             [**2172-6-23**]  02:58 AM
                             [**2172-6-24**]  04:34 AM
                             [**2172-6-25**]  04:59 AM
                             [**2172-6-26**]  04:32 AM
                             [**2172-6-27**]  02:54 AM
                             [**2172-6-28**]  05:03 AM
                             [**2172-6-29**]  04:43 AM
   WBC
   13.9
   13.0
   12.7
   14.4
   14.6
   13.6
   11.9
   14.9
   Hct
   25.6
   26.6
   26.6
   25.1
   26.7
   26.8
   24.7
   22.5
   Plt
   107
   146
   174
   179
   200
   178
   150
   121
   Cr
   0.8
   0.8
   0.8
   0.8
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   Glucose
   164
   181
   185
   81
   176
   247
   134
   152
   183
   239
   Other labs: PT / PTT / INR:20.6/70.3/1.9, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/32, Alk Phos / T Bili:130/2.2,
   Amylase / Lipase:43/33, Differential-Neuts:74.6 %, Band:4.0 %,
   Lymph:17.9 %, Mono:4.4 %, Eos:2.9 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:2.4 g/dL, LDH:155 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Microbiology: NG since [**6-27**]
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ASCITES
 HYPERGLYCEMIA
 ALTERATION IN NUTRITION
 IMPAIRED SKIN INTEGRITY
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Ileus
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CIRRHOSIS OF LIVER, ALCOHOLIC
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], requiring
   multiple ICU transfers for respiratory failure in the setting of
   aspiration events.  Intubated x 3, now self-extubated and doing well.
   Respiratory Failure: Related to aspiration event and subsequent [**Doctor Last Name **].
   Plan had been for trach placement to facilitate management of expected
   future aspiration events but self-extubated [**2172-6-22**] and has been
   managing secretions acceptably since extubation.
   - No plans for tracheostomy at present
   - Stable on RA, Intermittent suction
   - Accepted for rehab
   Bacteremia:  Patient with enterobacter sensitive to meropenem on [**6-22**].
   Gram positive cocci appear to be [**Last Name (LF) 9503**], [**First Name3 (LF) **] vanc d/c
   - Continue meropenem
 Day 8 of 14
   - Trend platelets on meropenem
   Alcoholic Cirrhosis: Stable on rifaximin, lactulose,  PPI, folate, MV
   HyperNa: resolved, continue free water
   Anemia:  guiac stool, repeat Hct. Likely related to phlebotomy and
   critical illness. Give 1U PRBC.
   Rest per housestaff note
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2172-6-28**] 03:59 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-26**] 10:13 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined Mr [**Known lastname 5118**] and Dr [**Last Name (STitle) 2730**]
s note above is
   reflective of my opinion. He continues to have marginal mental status
   and remains restrained so as to allow for ongoing tube feeding. He is
   intermittently confused but responds to simple commands. He will need
   one unit pRBC today and will get screened [**Location 9524**] unit. His recovery
   will be slow and hopefully he will stay off the ventilator in the
   interim.
   Time spent: 25 mins.
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**], MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2172-6-29**] 01:12 PM ------

2172-06-30 05:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Mental status remained AOx1
   - Given 1 U PRBC for gradually down-trending Hct
   - Has a bed at Sainai MACU for AM of [**2172-6-30**]
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2172-6-30**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-6-29**] 04:19 PM
   Pantoprazole (Protonix) - [**2172-6-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-30**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 94 (83 - 102) bpm
   BP: 103/24(42) {89/24(42) - 127/86(144)} mmHg
   RR: 23 (17 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95 kg (admission): 103.7 kg
   Height: 69 Inch
             Total In:
                                                                  3,684 mL
                                                                    903 mL
   PO:
             TF:
                                                                  1,681 mL
                                                                    405 mL
   IVF:
                                                                    550 mL
                                                                    169 mL
   Blood products:
                                                                    293 mL
   Total out:
                                                                  1,610 mL
                                                                    140 mL
   Urine:
                                                                    610 mL
                                                                    140 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  2,074 mL
                                                                    763 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: L eye dilated
   Head, Ears, Nose, Throat: Normocephalic, Dobhoff in place
   Cardiovascular: Regular rate and rhythm, normal s1 and s2, no murmurs,
   rubs, gallops
   Respiratory / Chest: Symmetric, coarse breath sounds anteriorly
   bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, + fluid
   wave, + bulging flanks
   Extremities: Warm and well perfused, 2+ edema in both upper and lower
   extremities, 1+ pulses in distal extremities
   Skin:  Not assessed
   Neurologic: + asterixis, alert & oriented x 2
   Labs / Radiology
   104 K/uL
   7.8 g/dL
   554 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.5 mEq/L
   10 mg/dL
   96 mEq/L
   138 mEq/L
   24.6 %
   14.1 K/uL
        [image002.jpg]
                             [**2172-6-22**]  03:25 AM
                             [**2172-6-22**]  04:18 PM
                             [**2172-6-23**]  02:58 AM
                             [**2172-6-24**]  04:34 AM
                             [**2172-6-25**]  04:59 AM
                             [**2172-6-26**]  04:32 AM
                             [**2172-6-27**]  02:54 AM
                             [**2172-6-28**]  05:03 AM
                             [**2172-6-29**]  04:43 AM
                             [**2172-6-30**]  03:24 AM
   WBC
   13.9
   13.0
   12.7
   14.4
   14.6
   13.6
   11.9
   14.9
   14.1
   Hct
   25.6
   26.6
   26.6
   25.1
   26.7
   26.8
   24.7
   22.5
   24.6
   Plt
   107
   146
   174
   179
   200
   178
   150
   121
   104
   Cr
   0.8
   0.8
   0.8
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   0.8
   Glucose
   181
   185
   81
   176
   247
   134
   152
   183
   239
   554
   Other labs: PT / PTT / INR:20.4/69.4/1.9, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/32, Alk Phos / T Bili:130/2.2,
   Amylase / Lipase:43/33, Differential-Neuts:74.6 %, Band:4.0 %,
   Lymph:17.9 %, Mono:4.4 %, Eos:2.9 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:2.4 g/dL, LDH:155 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], requiring
   multiple ICU transfers for respiratory failure in the setting of
   aspiration events.
   Respiratory Failure: Related to aspiration event and subsequent [**Doctor Last Name **].
   Plan had been for trach placement to facilitate management of expected
   future aspiration events but self-extubated [**2172-6-22**] and has been
   managing secretions acceptably since extubation
   - Plan for screen for rehab today
   - Tracheostomy not indicated
   - Intermittent suction
   Bacteremia: Patient with enterobacter sensitive to meropenem on [**6-22**].
   Coag negative staph from [**6-23**].  Currently on meropenem.  Now PICC in
   place and IJ removed, tip cx negative.
   - continue meropenem x 14 day course (last day [**7-6**])
   - follow up surveillance cultures
   Alcoholic Cirrhosis/hepatic encephalopathy: Complicated by grade II
   esophageal varices s/p banding on this prolonged hospitalization.
   Dobhoff now in place for tube feeds and GI meds. Increased
   tremor/asterixis today but stooling well.
   - continue rifaximin, lactulose (dose decreased to decrease number of
   skipped doses)
   - continue tube feeds
   - continue IV PPI [**Hospital1 **]
   Hypernatremia: Serum Na now normalized with free water repletion
   although still with large losses via stools
   - continue free water flushes 300 q 4H per NGt
   - daily sodium checks
    Anemia: Slowly trending down over last several days.
   - monitor.
   - PM hematocrit, if < 21 will transfuse
   - guaiac all stools
   Thrombocytopenia: Likely [**1-27**] to BM suppression from antibiotics or
   acute illness, although may have component from underlying liver
   disease. Plt slowly downtrending since meropenem restarted but may be
   nl fluctuation.
   - cont to monitor while on meropenem
   Diabetes Mellitus: Standing NPH with HISS, dextrose prn FS<70
   - titrate insulin as necessary
   Alcohol abuse: Folate/MVI
   Diarrhea: Likely [**1-27**] lactulose.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2172-6-30**] 03:52 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2172-6-26**] 10:13 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility

2172-06-30 08:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Hepatic encephalopathy, Resolving sepsis
   24 Hour Events:
   transfused 1u prbc yest
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2172-6-30**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-6-29**] 04:19 PM
   Pantoprazole (Protonix) - [**2172-6-30**] 12:00 AM
   Other medications:
   rifaximin, folate, Vit B12, MVI, Protonix, RISS, heparin sc, lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-6-30**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 106 (83 - 106) bpm
   BP: 126/38(60) {89/24(42) - 127/86(144)} mmHg
   RR: 22 (17 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 95 kg (admission): 103.7 kg
   Height: 69 Inch
             Total In:
                                                                  3,684 mL
                                                                  1,473 mL
   PO:
             TF:
                                                                  1,681 mL
                                                                    615 mL
   IVF:
                                                                    550 mL
                                                                    199 mL
   Blood products:
                                                                    293 mL
   Total out:
                                                                  1,610 mL
                                                                    180 mL
   Urine:
                                                                    610 mL
                                                                    180 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  2,074 mL
                                                                  1,293 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Dobhoff tube in R nare
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   104 K/uL
   554 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.5 mEq/L
   10 mg/dL
   96 mEq/L
   138 mEq/L
   24.6 %
   14.1 K/uL
        [image002.jpg]
                             [**2172-6-22**]  03:25 AM
                             [**2172-6-22**]  04:18 PM
                             [**2172-6-23**]  02:58 AM
                             [**2172-6-24**]  04:34 AM
                             [**2172-6-25**]  04:59 AM
                             [**2172-6-26**]  04:32 AM
                             [**2172-6-27**]  02:54 AM
                             [**2172-6-28**]  05:03 AM
                             [**2172-6-29**]  04:43 AM
                             [**2172-6-30**]  03:24 AM
   WBC
   13.9
   13.0
   12.7
   14.4
   14.6
   13.6
   11.9
   14.9
   14.1
   Hct
   25.6
   26.6
   26.6
   25.1
   26.7
   26.8
   24.7
   22.5
   24.6
   Plt
   107
   146
   174
   179
   200
   178
   150
   121
   104
   Cr
   0.8
   0.8
   0.8
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   0.8
   Glucose
   181
   185
   81
   176
   247
   134
   152
   183
   239
   554
   Other labs: PT / PTT / INR:20.4/69.4/1.9, CK / CKMB /
   Troponin-T:21/5/0.09, ALT / AST:14/32, Alk Phos / T Bili:130/2.2,
   Amylase / Lipase:43/33, Differential-Neuts:74.6 %, Band:4.0 %,
   Lymph:17.9 %, Mono:4.4 %, Eos:2.9 %, Fibrinogen:219 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:2.4 g/dL, LDH:155 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Microbiology: C. diff- neg
   [**6-26**], [**6-27**] blood neg
   [**6-23**] blood- Enterobacter ([**Last Name (un) 430**] [**Last Name (un) **])
   Assessment and Plan
   58y.o. M with alcoholic cirrhosis s/p esophageal banding for variceal
   bleed, who presented with hepatic encephalopathy on [**2172-5-10**], requiring
   multiple ICU transfers for respiratory failure in the setting of
   aspiration events.  Intubated x 3, now self-extubated and doing well.
   Respiratory Failure: Related to aspiration event and subsequent [**Doctor Last Name **].
   Plan had been for trach placement to facilitate management of expected
   future aspiration events but self-extubated [**2172-6-22**] and has been
   managing secretions acceptably since extubation.
   - No plans for tracheostomy at present
   - Stable on RA, Intermittent suction
   - Accepted for rehab
   Bacteremia:  Patient with enterobacter sensitive to meropenem on [**6-22**].
   Gram positive cocci appear to be [**Last Name (LF) 9503**], [**First Name3 (LF) **] vanc d/c
   - Continue meropenem
 Day 9 of 14
   - Trend platelets on meropenem as they continue to downtrend
   Alcoholic Cirrhosis: Stable on rifaximin, lactulose,  PPI, folate, MV
   HyperNa: resolved, continue free water
   Anemia:  guiac stool, repeat Hct. Likely related to phlebotomy and
   critical illness. Give 1U PRBC.
   Rest per housestaff note
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2172-6-30**] 03:52 AM 70 mL/hour
   Comments: free water flushes 300cc q4h
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2172-6-26**] 10:13 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  girlfriend [**Name (NI) **] and daughter [**Name (NI) 668**] updated
   regarding transfer to NE [**Hospital1 697**]
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes